2171-10-08 09:10:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Remains intubated, mechanically ventilated.
   24 Hour Events:
   Attends to voice, follows simple commands.  Left hemiplegia evident.
 INVASIVE VENTILATION - START [**2171-10-7**] 09:30 PM
 PICC LINE - START [**2171-10-7**] 09:49 PM
 BLOOD CULTURED - At [**2171-10-7**] 10:45 PM
   peripheral stick
 URINE CULTURE - At [**2171-10-7**] 11:30 PM
 SPUTUM CULTURE - At [**2171-10-8**] 12:00 AM
 BLOOD CULTURED - At [**2171-10-8**] 04:00 AM
   peripheral stick
 STOOL CULTURE - At [**2171-10-8**] 04:00 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-8**] 01:00 AM
   Vancomycin - [**2171-10-8**] 08:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG
   tube, ETT
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-8**] 09:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.5
   HR: 78 (64 - 128) bpm
   BP: 122/58(74) {106/47(62) - 138/70(86)} mmHg
   RR: 25 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
           1,444 mL
   PO:
           TF:
   IVF:
   586 mL
   Blood products:
   198 mL
   Total out:
                                                                    250 mL
                                                                    465 mL
   Urine:
                                                                    250 mL
                                                                    415 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                    979 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 98%
   ABG: 7.46/59/89/36/14
   Ve: 13.2 L/min
   PaO2 / FiO2: 148
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, Distant, No(t) Loud, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Clear : Right, Crackles : Left, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful with right arm and
   right leg, No(t) Sedated, No(t) Paralyzed, Tone: Not assessed, Left
   hemiplegia
   Labs / Radiology
   9.1 g/dL
   54 K/uL
   115 mg/dL
   0.8 mg/dL
   36 mEq/L
   4.6 mEq/L
   64 mg/dL
   103 mEq/L
   145 mEq/L
   27.1 %
   30.3 K/uL
        [image002.jpg]
                            [**2171-10-7**]  10:06 PM
                            [**2171-10-7**]  10:39 PM
                            [**2171-10-8**]  01:36 AM
                            [**2171-10-8**]  04:00 AM
   WBC
   25.4
   30.3
   Hct
   28.9
   27.1
   Plt
   43
   54
   Cr
   0.8
   0.8
   TropT
   0.06
   TCO2
   41
   42
   43
   Glucose
   117
   115
   Other labs: PT / PTT / INR:14.3/27.2/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:11.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia presumably in context of new CNS process
   (presumed intracranial hemorrhage).
   RESPIRATORY FAILURE -- hypoxemic; likely attributed to pneumonia.  Need
   to assess preparedness for extubation trial --> check RSBI.
   PULMONARY INFILTRATE -- LLL, likely pneumonia, suspect aspiration.
   Continue empirical antimicrobials.
   CNS EVENT -- presumed intracranial hemorrhage (reportedly hemorrhage
   into CNS tumor) --> images not available from OSH.  Monitor
   neurological exam.  Neurosurgical consultation.  Will discuss with
   Neurosurgical service regarding optimal imaging study to pursue
   currently.
   h/o DVT -- repeat imaging to evaluate for recurrent DVT.  Doubt
   pulmonary embolism as acute event for hypoxemia.
   A-FIB -- rate controlled currently.
   FLUIDS -- intravascularly depleted.  Provide iv fluid boluses, monitor
   BP, HR and urine output.
   THROMBOCYTOPENIA -- transfuse to plts > 50 as per Neurosurgery.
   CAD -- h/o CABG.  no active issues.  Continue usual meds.
   NUTRITIONAL SUPPORT -- TF via PEG.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-09 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Neurosurgery consulted:
   1.       No acute indication for surgery.
   2.       Would like plt >100K prior to OR, consult heme-onc to eval
   possible etiologies of thrombocytopenia worse to suggest ways to
   increase plt count and possible BM biopsy.
   3.       Had head CT non con and MRI per neurosurg recs.
   4.       Final reads pending transfused plt counts and vent status.
   Bradycardic overnight. HD stable. Unremarkable ECG and asymptomatic
   Had a 7 hour period of pressure support yesterday, which he tolerated
   until the pt. was mobilized to go to MRI, at which point his O2
   saturation has dropped.
One unit of platelets transfused.
 ULTRASOUND - At [**2171-10-8**] 09:00 AM: Negative for DVT BL LE
 ARTERIAL LINE - Placed [**2171-10-8**] 05:01 PM
 MRI and CT of the head obtained.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-8**] 11:11 PM
   Ciprofloxacin - [**2171-10-8**] 11:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-9**] 03:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-9**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.7
   HR: 44 (44 - 91) bpm
   BP: 102/58(73) {102/40(60) - 148/67(92)} mmHg
   RR: 20 (12 - 36) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
           Total In:
                                                                  2,676 mL
                                                                  1,388 mL
   PO:
           TF:
                                                                     53 mL
                                                                    118 mL
   IVF:
                                                                  1,040 mL
                                                                    647 mL
   Blood products:
                                                                    493 mL
                                                                    223 mL
   Total out:
                                                                  1,205 mL
                                                                    640 mL
   Urine:
                                                                  1,155 mL
                                                                    640 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,471 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 675 (613 - 675) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.48/51/107/35/12
   Ve: 8.3 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Awake, making eye contact, intubated and lying in bed with left arm and
   leg extended.
   Pupils equally round and reactive.  Left eye ptosis and left sided
   facial droop.
   MMM, ET tube.
   R PICC in place.
   S1, S2, regular, at times is transiently Bradycaric, no murmur
   appreciated.
   Lungs with good air movement with an anterior exam.
   Abd: PEG in place, +BS, soft and not tender.
   Ext: some edema of LUE, but no LE edema.  Good peripheral pulses.
   Stage 2 sacral ulcers which were dressed appropriately.
   Right arms and leg have intact strength but left arm and leg are 0/5.
   Labs / Radiology
   81 K/uL
   8.5 g/dL
   120 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.1 mEq/L
   66 mg/dL
   101 mEq/L
   144 mEq/L
   25.2 %
   21.0 K/uL
        [image002.jpg]
                            [**2171-10-7**]  10:06 PM
                            [**2171-10-7**]  10:39 PM
                            [**2171-10-8**]  01:36 AM
                            [**2171-10-8**]  04:00 AM
                            [**2171-10-8**]  05:47 PM
                            [**2171-10-8**]  05:59 PM
                            [**2171-10-8**]  11:30 PM
                            [**2171-10-9**]  03:38 AM
   WBC
   25.4
   30.3
   25.1
   21.0
   Hct
   28.9
   27.1
   25.7
   25.2
   Plt
   43
   54
   59
   81
   Cr
   0.8
   0.8
   1.0
   TropT
   0.06
   TCO2
   41
   42
   43
   40
   39
   Glucose
   117
   115
   120
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic.
   # Brain tumor with hemorrhagic lesion in parietal lobe:
   Neuro exam has been stable as compared to signout from OSH.
   - Contact patient's PCP and [**Name9 (PRE) 5976**] ([**Doctor Last Name 540**])
   - Neurosurgery input
   1.       No acute indication for surgery.
   2.       Would like plt >100K prior to OR, consult heme-onc to eval
   possible etiologies of thrombocytopenia worse to suggest ways to
   increase plt count and possible BM biopsy.
   3.       Had head CT (interval resolution of hemorrhagic mass) and MRI
   (result pending).
   4.       Final reads pending transfused plt counts and vent status.
   - transfuse to keep platelets > 50
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure:
   No evidence of mucous plugging.  Suspect he has derecruited during
   transport.  Note that he has been intubated since [**9-25**].
   - Repeat ABG
   - Address pneumonia as discussed below
   - Potential fluid overload with a CXR demonstrating a new left sided
   effusion and fluid in the left fissure.  Yesterday
s FENa was 0.6
   will rpt FENa based upon current urine and serum electrolytes, and
   attempt soft diuresis with 20 mg of IV Lasix.  Will use ultrasound of
   left lung to help determine whether LLL CXR opacity is fluid overload
   vs. atelectasis.
   - note that pt has h/o DVT
   - LE ultrasounds were negative for DVTs.
   # Leukocytosis and Fevers:
   Suspect patient has nosocomial pneumonia.  Also may have C diff
 1 of
   3 cultures is negative.  Of note, his R-sided PICC was placed at OSH.
   - cover nosocomial VAP with vanc/zosyn/cipro (day [**2-6**])
   - cover possible C diff with vanc PO until third stool culture is
   negative.
   - obtain sputum, blood, urine, stool Cx (for C diff)'
   # Metabolic Alkalosis/Volume status:
   - Likely due to diuresis or suctioning.
   - Holding fluids for possible fluid overload.  Will reassess once serum
   and urine electrolytes have been collected.
   - Rpt urine electrolytes to better assess volume status.
   # h/o DVT:
   - pneumoboots
   - no anticoagulation given intracranial bleeding.
   # MDS:
   - transfuse for Hct < 25 or Platelets < 50
   - type and screen
   - consented for blood
   # CAD s/p CABG; HTN; Dyslipidemia:
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # AFib:
   - Rate control with beta blocker
   - No ASA or coumadin
   # Hyperglycemia:
   Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout:
   - Allopurinol
   # ? GERD:  on PPI at home, will continue
   # Episode of brown liquid from PEG concerning for old blood:
   ? [**1-26**] gastritis.
   - PPI
   - type and screen
   - Hcts have been stable.
   # FEN:
   - Held fluids due to ? fluid overload.
   - Nutrition recs: TF HN @ 15mL/hr, check TF tolerance, daily chem10,
   add multivitamins and supplements.
   # PPx:  pneumoboots, PPI
   # Access:  R PICC
   # Code:  Presumed FULL, will address with family when possible.
   # Comm:  with wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU for now

2171-10-09 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Tolerated IPS mode for > 6 hours yesterday (increased resp rate).
   Experienced episode of bradycardia, asymptomatic, resolved
   spontaneously.
 ULTRASOUND - At [**2171-10-8**] 09:00 AM
   ultra sound tech state that u/s of his legs are neg
 ARTERIAL LINE - START [**2171-10-8**] 05:01 PM
 MAGNETIC RESONANCE IMAGING - At [**2171-10-8**] 11:09 PM
   MRI head
 EKG - At [**2171-10-9**] 06:13 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Mechanically ventilated
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-8**] 11:11 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-9**] 03:30 AM
   Vancomycin - [**2171-10-9**] 08:29 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanically ventilated
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-9**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 71 (44 - 91) bpm
   BP: 135/63(86) {102/40(60) - 148/72(92)} mmHg
   RR: 24 (12 - 36) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  2,676 mL
                                                                  2,198 mL
   PO:
           TF:
                                                                     53 mL
                                                                    284 mL
   IVF:
                                                                  1,040 mL
                                                                  1,091 mL
   Blood products:
                                                                    493 mL
                                                                    223 mL
   Total out:
                                                                  1,205 mL
                                                                  1,160 mL
   Urine:
                                                                  1,155 mL
                                                                  1,160 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,471 mL
                                                                  1,038 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 675 (613 - 675) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.48/51/107/35/12
   Ve: 8.4 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , Bronchial: posteriorly,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal right; reduced left tone, Left hemiplegia
   Labs / Radiology
   8.5 g/dL
   81 K/uL
   120 mg/dL
   1.0 mg/dL
   35 mEq/L
   4.1 mEq/L
   66 mg/dL
   101 mEq/L
   144 mEq/L
   25.2 %
   21.0 K/uL
        [image002.jpg]
                            [**2171-10-7**]  10:06 PM
                            [**2171-10-7**]  10:39 PM
                            [**2171-10-8**]  01:36 AM
                            [**2171-10-8**]  04:00 AM
                            [**2171-10-8**]  05:47 PM
                            [**2171-10-8**]  05:59 PM
                            [**2171-10-8**]  11:30 PM
                            [**2171-10-9**]  03:38 AM
   WBC
   25.4
   30.3
   25.1
   21.0
   Hct
   28.9
   27.1
   25.7
   25.2
   Plt
   43
   54
   59
   81
   Cr
   0.8
   0.8
   1.0
   TropT
   0.06
   TCO2
   41
   42
   43
   40
   39
   Glucose
   117
   115
   120
   Other labs: PT / PTT / INR:14.6/27.1/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.4 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persisitent.  Multifactorial including
   pneumonia, perhaps CHF (volume overload), new right plerual effusion.
   Continue mechanical ventilation, monitor ABG.  Hope to work towards
   repeat SBT, and hopefully extubation once volume status and pneumonia
   improved.  Adjust mechanical ventilation, aim for Po2 >60 mmHg, SaO2
   >90%.
   PNEUMONIA -- LLL.  Probable aspiration.  Continue antimicrobials.
   CNS TUMOR -- s/p hemorrhage.  Awaiting Neurosurgical evacuation in near
   future.
   NUTRITIONAL SUPPORT -- TF
   LEFT HEMIPLEGIA  --  chronic, stable.
   THROMBOCYTOPENIA -- continues to require plts.  Desire for >100k at
   time of surgery.
   FLUIDS -- desire net negative fluid balance.
   MDS -- chronic.  [**Month (only) 60**] require reevaluation.
   CAD -- evidence for mild heart failure.  Perhaps related to diastolic
   dysfunction.  Monitor exam.
   BRADYCARDIA -- probable pharmacological (beta-blockers).
   Asymptomatic.  Monitor.
   ICU Care
   Nutrition:
   Impact ([**12-28**]) - [**2171-10-8**] 06:45 PM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Arterial Line - [**2171-10-8**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:   Discussed progress during family meeting.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-10 05:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2171-10-9**] 12:55 PM
 URINE CULTURE - At [**2171-10-9**] 12:55 PM
   Platelets repleted
   Goal of -1L Negative, Pt was + yesterday.
   Lasix 40IV given overnight, 40meQ KCl
   TFs started
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-9**] 10:36 PM
   Vancomycin - [**2171-10-10**] 01:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-10**] 02:30 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2171-10-10**] 04:00 AM
   Furosemide (Lasix) - [**2171-10-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-10**] 05:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.9
   HR: 67 (48 - 87) bpm
   BP: 118/47(71) {97/37(56) - 135/72(249)} mmHg
   RR: 21 (19 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,844 mL
                                                                    688 mL
   PO:
           TF:
                                                                    869 mL
                                                                    257 mL
   IVF:
                                                                  1,497 mL
                                                                    141 mL
   Blood products:
                                                                    223 mL
                                                                     35 mL
   Total out:
                                                                  2,980 mL
                                                                    800 mL
   Urine:
                                                                  2,980 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    864 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 22 cmH2O
   Plateau: 20 cmH2O
   SpO2: 93%
   ABG: 7.46/54/69/36/12
   Ve: 11.6 L/min
   PaO2 / FiO2: 115
   Physical Examination
   Awake, making eye contact, intubated and lying in bed with left arm and
   leg extended.
   Pupils equally round and reactive.  Left eye ptosis and left sided
   facial droop.
   MMM, ET tube.
   R PICC in place.
   S1, S2, regular, at times is transiently Bradycaric, no murmur
   appreciated.
   Lungs with good air movement with an anterior exam.
   Abd: PEG in place, +BS, soft and not tender.
   Ext: some edema of LUE, but no LE edema.  Good peripheral pulses.
   Stage 2 sacral ulcers which were dressed appropriately.
   Right arms and leg have intact strength but left arm and leg are 0/5.
   Labs / Radiology
   49 K/uL
   8.2 g/dL
   129 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.8 mEq/L
   67 mg/dL
   101 mEq/L
   143 mEq/L
   24.8 %
   19.0 K/uL
        [image002.jpg]
                            [**2171-10-8**]  01:36 AM
                            [**2171-10-8**]  04:00 AM
                            [**2171-10-8**]  05:47 PM
                            [**2171-10-8**]  05:59 PM
                            [**2171-10-8**]  11:30 PM
                            [**2171-10-9**]  03:38 AM
                            [**2171-10-9**]  01:42 PM
                            [**2171-10-9**]  04:14 PM
                            [**2171-10-10**]  02:15 AM
                            [**2171-10-10**]  02:39 AM
   WBC
   30.3
   25.1
   21.0
   19.0
   Hct
   27.1
   25.7
   25.2
   24.8
   Plt
   54
   59
   81
   49
   Cr
   0.8
   1.0
   1.0
   1.1
   TCO2
   42
   43
   40
   39
   41
   40
   Glucose
   115
   120
   99
   129
   Other labs: PT / PTT / INR:14.7/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic.
   # Brain tumor with hemorrhagic lesion in parietal lobe:
   Neuro exam has been stable as compared to signout from OSH.
   - Contact patient's PCP and [**Name9 (PRE) 5976**] ([**Doctor Last Name 540**])
   - Neurosurgery input
   1.       No acute indication for surgery.
   2.       Would like plt >100K prior to OR, consult heme-onc to eval
   possible etiologies of thrombocytopenia worse to suggest ways to
   increase plt count and possible BM biopsy.
   3.       Had head CT (interval resolution of hemorrhagic mass) and MRI
   (result pending).
   4.       Final reads pending transfused plt counts and vent status.
   - transfuse to keep platelets > 50
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure:
   No evidence of mucous plugging.  Suspect he has derecruited during
   transport.  Note that he has been intubated since [**9-25**].
   - Repeat ABG
   - Address pneumonia as discussed below
   - Potential fluid overload with a CXR demonstrating a new left sided
   effusion and fluid in the left fissure.  Yesterday
s FENa was 0.6
   will rpt FENa based upon current urine and serum electrolytes, and
   attempt soft diuresis with 20 mg of IV Lasix.  Will use ultrasound of
   left lung to help determine whether LLL CXR opacity is fluid overload
   vs. atelectasis.
   - note that pt has h/o DVT
   - LE ultrasounds were negative for DVTs.
   # Leukocytosis and Fevers:
   Suspect patient has nosocomial pneumonia.  Also may have C diff
 1 of
   3 cultures is negative.  Of note, his R-sided PICC was placed at OSH.
   - cover nosocomial VAP with vanc/zosyn/cipro (day [**2-6**])
   - cover possible C diff with vanc PO until third stool culture is
   negative.
   - obtain sputum, blood, urine, stool Cx (for C diff)'
   # Metabolic Alkalosis/Volume status:
   - Likely due to diuresis or suctioning.
   - Holding fluids for possible fluid overload.  Will reassess once serum
   and urine electrolytes have been collected.
   - Rpt urine electrolytes to better assess volume status.
   # h/o DVT:
   - pneumoboots
   - no anticoagulation given intracranial bleeding.
   # MDS:
   - transfuse for Hct < 25 or Platelets < 50
   - type and screen
   - consented for blood
   # CAD s/p CABG; HTN; Dyslipidemia:
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # AFib:
   - Rate control with beta blocker
   - No ASA or coumadin
   # Hyperglycemia:
   Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout:
   - Allopurinol
   # ? GERD:  on PPI at home, will continue
   # Episode of brown liquid from PEG concerning for old blood:
   ? [**1-26**] gastritis.
   - PPI
   - type and screen
   - Hcts have been stable.
   # FEN:
   - Held fluids due to ? fluid overload.
   - Nutrition recs: TF HN @ 15mL/hr, check TF tolerance, daily chem10,
   add multivitamins and supplements.
   # PPx:  pneumoboots, PPI
   # Access:  R PICC
   # Code:  Presumed FULL, will address with family when possible.
   # Comm:  with wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU for now
   ICU Care
   Nutrition:
   Impact ([**12-28**]) - [**2171-10-10**] 01:34 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Arterial Line - [**2171-10-8**] 05:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-10-10 10:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2171-10-9**] 12:55 PM
 URINE CULTURE - At [**2171-10-9**] 12:55 PM
 STOOL CULTURE - At [**2171-10-10**] 05:08 AM
   Remains intubated, mechanically ventilated.
   Awake, interactive, appropriate.  Communicating with writing.
                                       History obtained from Medical records
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-9**] 10:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-10**] 02:30 AM
   Vancomycin - [**2171-10-10**] 09:49 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2171-10-10**] 04:00 AM
   Furosemide (Lasix) - [**2171-10-10**] 04:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-10**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 66 (48 - 67) bpm
   BP: 137/55(83) {97/37(56) - 137/62(249)} mmHg
   RR: 25 (19 - 25) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,844 mL
                                                                  1,661 mL
   PO:
           TF:
                                                                    869 mL
                                                                    615 mL
   IVF:
                                                                  1,497 mL
                                                                    396 mL
   Blood products:
                                                                    223 mL
                                                                    300 mL
   Total out:
                                                                  2,980 mL
                                                                  1,620 mL
   Urine:
                                                                  2,980 mL
                                                                  1,620 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    864 mL
                                                                     41 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.47/54/85.[**Numeric Identifier 128**]/36/13
   Ve: 10.5 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal right; flaccid left, left hemiplegia
   Labs / Radiology
   8.2 g/dL
   61 K/uL
   129 mg/dL
   1.1 mg/dL
   36 mEq/L
   3.8 mEq/L
   67 mg/dL
   101 mEq/L
   143 mEq/L
   24.8 %
   19.0 K/uL
        [image002.jpg]
                            [**2171-10-8**]  05:47 PM
                            [**2171-10-8**]  05:59 PM
                            [**2171-10-8**]  11:30 PM
                            [**2171-10-9**]  03:38 AM
                            [**2171-10-9**]  01:42 PM
                            [**2171-10-9**]  04:14 PM
                            [**2171-10-10**]  02:15 AM
                            [**2171-10-10**]  02:39 AM
                            [**2171-10-10**]  06:03 AM
                            [**2171-10-10**]  06:19 AM
   WBC
   25.1
   21.0
   19.0
   Hct
   25.7
   25.2
   24.8
   Plt
   59
   81
   49
   61
   Cr
   1.0
   1.0
   1.1
   TCO2
   40
   39
   41
   40
   40
   Glucose
   120
   99
   129
   Other labs: PT / PTT / INR:14.7/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.5 mg/dL,
   Mg++:2.1 mg/dL, PO4:4.0 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE
 Attibuted predominately to pneumonia and CHF.
   Plan continue to treat with antibiotics and net diuresis.  Maintain
   mechanical ventilation.  Work towards SBT as clinically improves.
   Hopefully can avoid tracheotomy tube.
   CNS MASS -- interval improvement.  Neurosurgery to evaluate.
   CAD
 Remote CABG.  [**Month (only) 60**] have component of CHF.  Assess LV and valvular
   function.
   RENAL FUNCTION
 preserved.  Monitor UO, BUN, creatinine.
   s/p CVA
 remote.  Left hemiplegia.
   NUTRITIONAL SUPPORT
 TF via PEG @ goal.
   MDS
 Heme/Onc recommendations pending.
   ICU Care
   Nutrition:
   Impact ([**12-28**]) - [**2171-10-10**] 01:34 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Arterial Line - [**2171-10-8**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-11 05:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP: No tap of pleural effusion as clinical status and CXR showed
   improvement and there was no consolidation by U/S.
   - Heme/Onc: Anti-platelet antibody (for HIT) sent/pending
   - Vent settings changed to FiO2 60
50, rate 20
   - Lasix 40mg IV BID to start today at 0600
   - Transfused platelets for a count of 40.
 STOOL CULTURE - At [**2171-10-11**] 05:00 AM
   -Echo performed in am.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-9**] 10:36 PM
   Vancomycin - [**2171-10-11**] 12:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 02:25 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2171-10-10**] 03:00 PM
   Furosemide (Lasix) - [**2171-10-10**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-11**] 05:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.4
C (97.6
   HR: 58 (55 - 75) bpm
   BP: 125/52(74) {106/40(59) - 137/55(83)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
           Total In:
                                                                  3,303 mL
                                                                    887 mL
   PO:
           TF:
                                                                  1,493 mL
                                                                    371 mL
   IVF:
                                                                    930 mL
                                                                    157 mL
   Blood products:
                                                                    300 mL
                                                                    259 mL
   Total out:
                                                                  3,900 mL
                                                                  1,510 mL
   Urine:
                                                                  3,900 mL
                                                                    960 mL
   NG:
   Stool:
   550 mL
   Drains:
   Balance:
                                                                   -597 mL
                                                                   -623 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 2
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.48/53/84.[**Numeric Identifier 1625**]/38/13
   Ve: 9.3 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Awake, making eye contact, intubated and lying in bed with left arm and
   leg extended.
   Pupils equally round and reactive.  Left eye ptosis and left sided
   facial droop.
   MMM, ET tube.
   R PICC in place.
   S1, S2, regular, at times is transiently Bradycaric, no murmur
   appreciated.
   Lungs with good air movement with an anterior exam.
   Abd: PEG in place, +BS, soft and not tender.
   Ext: some edema of LUE, but no LE edema.  Good peripheral pulses.
   Stage 2 sacral ulcers which were dressed appropriately.
   Right arms and leg have intact strength but left arm and leg are 0/5.
   Labs / Radiology
   40 K/uL
   8.1 g/dL
   125 mg/dL
   1.1 mg/dL
   38 mEq/L
   3.7 mEq/L
   62 mg/dL
   100 mEq/L
   143 mEq/L
   23.8 %
   16.8 K/uL
        [image002.jpg]
   [**10-10**] 3pm Urine: Na-70, Cr-23, Urea 516      FUrea: 36% (borderline
   pre-renal); BUN/Cr ratio about 60.
   CXR (My read): ETT at about 4.5cm from carina. Right and left pleural
   effusion appears to be improved from yesterday with greater
   appreciation for margins of diaphragm on the right. Improved aeration
   with less bibasilar opacities.
   MRI ([**10-8**]): final read pending    APAb Pending.
   Cath Tip Cx: pending; Cdif x2: neg with 3^rd Cdif pending  BCx pending,
   UCx No Growth
                            [**2171-10-9**]  01:42 PM
                            [**2171-10-9**]  04:14 PM
                            [**2171-10-10**]  02:15 AM
                            [**2171-10-10**]  02:39 AM
                            [**2171-10-10**]  06:03 AM
                            [**2171-10-10**]  06:19 AM
                            [**2171-10-10**]  03:55 PM
                            [**2171-10-10**]  06:15 PM
                            [**2171-10-11**]  02:56 AM
                            [**2171-10-11**]  03:14 AM
   WBC
   19.0
   16.8
   Hct
   24.8
   23.8
   Plt
   49
   61
   40
   Cr
   1.0
   1.1
   1.1
   TCO2
   41
   40
   40
   43
   40
   41
   Glucose
   99
   129
   91
   125
   Other labs: PT / PTT / INR:14.4/28.5/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic.
   # Brain tumor with hemorrhagic lesion in parietal lobe: Neuro exam has
   been stable as compared to signout from OSH. No changes from previous
   day.
   - Contact patient's PCP
   [**Name Initial (PRE) **] [**Name9 (PRE) **] ([**Doctor Last Name 540**]) saw pt [**Last Name (LF) **], [**First Name3 (LF) 178**] contact for further
   input
   - Initial Neurosurgery input as follows. Possible surgery next
   Thursday.
   1.       No acute indication for surgery.
   2.       Would like plt >100K prior to OR,
   3.       Had head CT (interval resolution of hemorrhagic mass) and MRI
   (result pending).
   4.       Final reads pending transfused plt counts and vent status.
   - transfuse to keep platelets > 50 (s/p 5 units platelets total during
   admission).
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Most likely etiology includes
   resolving infection (eg: PNA) vs CHF/fluid overload. No evidence of
   mucous plugging.  Patient has been intubated since [**9-25**]. Current
   settings AC 50%/500/18/10 with no significant changes in ABG. Volume
   status: about -600cc on [**10-10**] and +666cc LOS.
   - Will plan to wean PEEP from 10
8 and follow ABGs               .
   consider RISB if weaning trial is tolerated.
   - Address pneumonia as discussed below
   - Potential fluid overload remains a component of his respiratory
   failure.  Will f/u ECHO results
   - Will continue to diurese with lasix and KCl with a goal daily diurese
   of -1-2L.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Leukocytosis and Fevers: Afebrile O/N, leukocytosis resolving.
   Etiologies include nosocomial VAP, C.dif colitis (although [**1-27**] cultures
   are negative).  Of note, his R-sided PICC was placed at OSH.
   - cover nosocomial VAP with vanc/zosyn/cipro (day 1=[**10-7**]; day #4;
   continue for [**8-4**] as clinical presentation allows)
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until one week after antibiotics are complete.
   - Following sputum, blood, urine
   # Metabolic Alkalosis/Volume status: Metabolic alkalosis most likely
   [**1-26**] contraction alkalosis (eg: diuresis or suctioning). Borderline
   FeUrea and BUN/Cr ratio >20 suggests pre-renal etiology.  However,
   considering volume overload resulting in respiratory compromise and
   have been diuresing. -597cc on [**10-10**] and +666cc LOS.
   - Holding fluids for possible fluid overload.  With goal diurese of
   -1-2L/day with Lasix 40mg IV BID; adjust as needed to meet goal.
   Continue to provide KCl 40mEq IV doses (including dosing TID?) to
   encourage further secretion of bicarbonate from kidneys.
   - TF Free water flushes-50cc
   -Check lytes at 3pm.
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # MDS: s/p 5units platelets during admission. Platelets 40 this am with
   order given to transfuse #5
   - transfuse for Hct < 25 or Platelets < 50
   - type and screen, consented for blood
   # CAD s/p CABG; HTN; Dyslipidemia:
   - ECHO today for re-evaluation of heart function (Last ECHO: [**8-31**]-Mild
   symmetric left ventricular hypertrophy with preserved global
   biventricular systolic function EF>55%; TEE [**9-30**]-No thrombus in LA)
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # AFib:
   - Rate control with beta blocker
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout:
   - Allopurinol
   # ? GERD:  on PPI at home, will continue
   # Episode of brown liquid from PEG concerning for old blood: ? [**1-26**]
   gastritis. Hcts have been stable.
   - PPI, type and screen
   # FEN:
   - F: Held fluids due to ? fluid overload.
   - E: daily chem10, replete PRN,
   - N: Nutrition recs: TF @ goal rate of 65cc/hr, check TF tolerance, add
   multivitamins and supplements.
   # PPx:  pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU for now
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV

2171-10-11 11:41:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2171-10-11**] 05:00 AM
   Remains intubated, mechanically ventilated.
   Awake, communicative (able to write).
   Offers no complaints.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-9**] 10:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 02:25 AM
   Vancomycin - [**2171-10-11**] 06:28 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2171-10-10**] 03:00 PM
   Furosemide (Lasix) - [**2171-10-10**] 09:00 PM
   Lansoprazole (Prevacid) - [**2171-10-11**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-11**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 75 (56 - 75) bpm
   BP: 128/57(82) {106/41(61) - 132/59(83)} mmHg
   RR: 20 (18 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,303 mL
                                                                  1,410 mL
   PO:
           TF:
                                                                  1,493 mL
                                                                    670 mL
   IVF:
                                                                    930 mL
                                                                    211 mL
   Blood products:
                                                                    300 mL
                                                                    259 mL
   Total out:
                                                                  3,900 mL
                                                                  2,060 mL
   Urine:
                                                                  3,900 mL
                                                                  1,510 mL
   NG:
   Stool:
   550 mL
   Drains:
   Balance:
                                                                   -597 mL
                                                                   -650 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.48/53/84.[**Numeric Identifier 1625**]/38/13
   Ve: 13.2 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal right, Left hemiplegia
   Labs / Radiology
   8.1 g/dL
   57 K/uL
   125 mg/dL
   1.1 mg/dL
   38 mEq/L
   3.7 mEq/L
   62 mg/dL
   100 mEq/L
   143 mEq/L
   23.8 %
   16.8 K/uL
        [image002.jpg]
                            [**2171-10-9**]  04:14 PM
                            [**2171-10-10**]  02:15 AM
                            [**2171-10-10**]  02:39 AM
                            [**2171-10-10**]  06:03 AM
                            [**2171-10-10**]  06:19 AM
                            [**2171-10-10**]  03:55 PM
                            [**2171-10-10**]  06:15 PM
                            [**2171-10-11**]  02:56 AM
                            [**2171-10-11**]  03:14 AM
                            [**2171-10-11**]  05:45 AM
   WBC
   19.0
   16.8
   Hct
   24.8
   23.8
   Plt
   49
   61
   40
   57
   Cr
   1.0
   1.1
   1.1
   TCO2
   40
   40
   43
   40
   41
   Glucose
   99
   129
   91
   125
   Other labs: PT / PTT / INR:14.4/28.5/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia, CHF.  Good progress.
   RESPIRATORY FAILURE -- persisent, but improving graduallly.  Continue
   treatment of pneumonia (VAP), continue treat CHF.  Hopefully work
   towards FiO2 <50% and PEEP <10 cmH2O prior to proceeding to SBT.
   FEVERS -- resolving. Attributed to pneumonia.  Hope to adjust
   antimicrobials.
   BRAIN LESION -- awaiting surgical biopsy/resection.  Bleeding
   stabilized.
   NUTRITIONAL SUPPORT -- TF.
   FLUIDS -- desire net negative by 1-2 L/24 hrs.  Monitor I/O.
   MDS -- no acute issues.
   THROMBOCYTOPENIA -- transfuse to plts >50
   ICU Care
   Nutrition:
   Impact ([**12-28**]) - [**2171-10-11**] 09:50 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Arterial Line - [**2171-10-8**] 05:01 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Family meeting held  Comments:   Updated medical
   condition with wife.
   [**Name (NI) 66**] status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-12 04:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   On CPAP with PSV. ABG as below
   Currently day [**5-4**] Abx ([**10-12**])
   HIT + (PF4 Ab)
   Tx platelets for <50
   Met I/O goal with pm Lasix held
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Last dose of Antibiotics:
   Ciprofloxacin - [**2171-10-9**] 10:36 PM
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 06:00 PM
   Vancomycin - [**2171-10-11**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2171-10-11**] 06:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-12**] 04:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.8
C (98.2
   HR: 57 (57 - 84) bpm
   BP: 116/48(68) {112/47(68) - 135/63(87)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,026 mL
                                                                    119 mL
   PO:
             TF:
                                                                  1,507 mL
                                                                     79 mL
   IVF:
                                                                    940 mL
                                                                     40 mL
   Blood products:
                                                                    259 mL
   Total out:
                                                                  4,860 mL
                                                                    580 mL
   Urine:
                                                                  4,310 mL
                                                                    580 mL
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                 -1,834 mL
                                                                   -461 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 431 (431 - 483) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 32
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 88
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 95%
   ABG: 7.50/51/86/39/13
   Ve: 13.6 L/min
   PaO2 / FiO2: 172
   Physical Examination
   Awake, making eye contact, intubated and lying in bed with left arm and
   leg extended.
   Pupils equally round and reactive.  Left eye ptosis and left sided
   facial droop.
   MMM, ET tube.
   R PICC in place.
   S1, S2, regular, at times is transiently Bradycaric, no murmur
   appreciated.
   Lungs with good air movement with an anterior exam.
   Abd: PEG in place, +BS, soft and not tender.
   Ext: some edema of LUE, but no LE edema.  Good peripheral pulses.
   Stage 2 sacral ulcers which were dressed appropriately.
   Right arms and leg have intact strength but left arm and leg are 0/5.
   Labs / Radiology
   47 K/uL
   8.3 g/dL
   105 mg/dL
   1.1 mg/dL
   39 mEq/L
   4.0 mEq/L
   54 mg/dL
   102 mEq/L
   145 mEq/L
   23.4 %
   18.6 K/uL
        [image002.jpg]
                            [**2171-10-10**]  06:03 AM
                            [**2171-10-10**]  06:19 AM
                            [**2171-10-10**]  03:55 PM
                            [**2171-10-10**]  06:15 PM
                            [**2171-10-11**]  02:56 AM
                            [**2171-10-11**]  03:14 AM
                            [**2171-10-11**]  05:45 AM
                            [**2171-10-11**]  03:32 PM
                            [**2171-10-11**]  04:37 PM
                            [**2171-10-12**]  02:45 AM
   WBC
   16.8
   18.6
   Hct
   23.8
   23.4
   Plt
   61
   40
   57
   50
   47
   Cr
   1.1
   1.2
   1.1
   TCO2
   40
   43
   40
   41
   41
   Glucose
   91
   125
   127
   105
   Other labs: PT / PTT / INR:14.7/29.4/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic.
   # Brain tumor with hemorrhagic lesion in parietal lobe: Neuro exam has
   been stable as compared to signout from OSH. No changes from previous
   day.
   - Contact patient's PCP
   [**Name Initial (PRE) **] [**Name9 (PRE) **] ([**Doctor Last Name 540**]) saw pt [**Last Name (LF) **], [**First Name3 (LF) 178**] contact for further
   input
   - Initial Neurosurgery input as follows. Possible surgery next
   Thursday.
   1.       No acute indication for surgery.
   2.       Would like plt >100K prior to OR,
   3.       Had head CT (interval resolution of hemorrhagic mass) and MRI
   (result pending).
   4.       Final reads pending transfused plt counts and vent status.
   - transfuse to keep platelets > 50 (s/p 5 units platelets total during
   admission).
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Most likely etiology includes
   resolving infection (eg: PNA) vs CHF/fluid overload. No evidence of
   mucous plugging.  Patient has been intubated since [**9-25**]. Current
   settings AC 50%/500/18/10 with no significant changes in ABG. Volume
   status: about -600cc on [**10-10**] and +666cc LOS.
   - Will plan to wean PEEP from 10
8 and follow ABGs               .
   consider RISB if weaning trial is tolerated.
   - Address pneumonia as discussed below
   - Potential fluid overload remains a component of his respiratory
   failure.  Will f/u ECHO results
   - Will continue to diurese with lasix and KCl with a goal daily diurese
   of -1-2L.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Leukocytosis and Fevers: Afebrile O/N, leukocytosis resolving.
   Etiologies include nosocomial VAP, C.dif colitis (although [**1-27**] cultures
   are negative).  Of note, his R-sided PICC was placed at OSH.
   - cover nosocomial VAP with vanc/zosyn/cipro (day 1=[**10-7**]; day #4;
   continue for [**8-4**] as clinical presentation allows)
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until one week after antibiotics are complete.
   - Following sputum, blood, urine
   # Metabolic Alkalosis/Volume status: Metabolic alkalosis most likely
   [**1-26**] contraction alkalosis (eg: diuresis or suctioning). Borderline
   FeUrea and BUN/Cr ratio >20 suggests pre-renal etiology.  However,
   considering volume overload resulting in respiratory compromise and
   have been diuresing. -597cc on [**10-10**] and +666cc LOS.
   - Holding fluids for possible fluid overload.  With goal diurese of
   -1-2L/day with Lasix 40mg IV BID; adjust as needed to meet goal.
   Continue to provide KCl 40mEq IV doses (including dosing TID?) to
   encourage further secretion of bicarbonate from kidneys.
   - TF Free water flushes-50cc
   -Check lytes at 3pm.
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # MDS: s/p 5units platelets during admission. Platelets 40 this am with
   order given to transfuse #5
   - transfuse for Hct < 25 or Platelets < 50
   - type and screen, consented for blood
   # CAD s/p CABG; HTN; Dyslipidemia:
   - ECHO today for re-evaluation of heart function (Last ECHO: [**8-31**]-Mild
   symmetric left ventricular hypertrophy with preserved global
   biventricular systolic function EF>55%; TEE [**9-30**]-No thrombus in LA)
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # AFib:
   - Rate control with beta blocker
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout:
   - Allopurinol
   # ? GERD:  on PPI at home, will continue
   # Episode of brown liquid from PEG concerning for old blood: ? [**1-26**]
   gastritis. Hcts have been stable.
   - PPI, type and screen
   # FEN:
   - F: Held fluids due to ? fluid overload.
   - E: daily chem10, replete PRN,
   - N: Nutrition recs: TF @ goal rate of 65cc/hr, check TF tolerance, add
   multivitamins and supplements.
   # PPx:  pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Arterial Line - [**2171-10-8**] 05:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-10-13 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Pt seized yesterday during spontaneous breathing trial;  Ativan,
   Dexamethasone and Phenytoin given, Pheytoin then started TID; CT brain
   showed no interval change in size of lesion, new bleed or new edema
   Diuresed over 2.5L in 24hrs, SBP dropped to 70s on A-Line (90s on
   Cuff), given 500NS bolus, which resolved.
   Vanco Level elevated (53); held vanco dose this am.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 06:00 PM
   Vancomycin - [**2171-10-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2171-10-12**] 04:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-13**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 67 (56 - 101) bpm
   BP: 104/47(65) {72/44(56) - 153/69(101)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  1,865 mL
                                                                  1,138 mL
   PO:
           TF:
                                                                    782 mL
                                                                    340 mL
   IVF:
                                                                    690 mL
                                                                    658 mL
   Blood products:
                                                                    273 mL
                                                                     20 mL
   Total out:
                                                                  4,680 mL
                                                                    520 mL
   Urine:
                                                                  4,280 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,815 mL
                                                                    618 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 444 (407 - 567) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/55/91/37/10
   Ve: 10.8 L/min
   PaO2 / FiO2: 152
   Physical Examination
   Gen: Sleeping, difficult to arouse, minimal response to voice/touch
   intubated and lying in bed with left arm and leg extended.
   HEENT: Pupils equally round and reactive.  Left eye ptosis and left
   sided facial droop, MMM, ET tube.
   R PICC in place.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no appreciation for WRR
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP pulses.  Unable to assess sacral decubitus
   ulcers, dressed.
   Neuro: Not awake/alert; unable to assess neuro status, flaccid left UE
   and LE, moving right UE and LE.
   Labs / Radiology
   54 K/uL
   7.7 g/dL
   110 mg/dL
   1.1 mg/dL
   37 mEq/L
   3.7 mEq/L
   51 mg/dL
   101 mEq/L
   143 mEq/L
   21.9 %
   19.7 K/uL
        [image002.jpg] Cdif negx3, UCx no growth, BCx no growth, Vanco 53,
   Phenytoin 6.2
                            [**2171-10-11**]  04:37 PM
                            [**2171-10-12**]  02:45 AM
                            [**2171-10-12**]  07:32 AM
                            [**2171-10-12**]  07:52 AM
                            [**2171-10-12**]  04:53 PM
                            [**2171-10-12**]  05:01 PM
                            [**2171-10-12**]  06:10 PM
                            [**2171-10-12**]  06:26 PM
                            [**2171-10-13**]  03:30 AM
                            [**2171-10-13**]  03:34 AM
   WBC
   18.6
   18.9
   19.7
   Hct
   23.4
   23.2
   21.9
   Plt
   47
   66
   57
   54
   Cr
   1.1
   1.1
   1.1
   TCO2
   41
   40
   40
   40
   39
   Glucose
   105
   96
   110
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic with respiratory failure.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: Seizure
   overnight most likely related to brain tumor, CT showed no progression
   or interval change of tumor. Given extra Phenytoin this am for
   decreased level.  Decreased interaction compared to previous days.
   - F/u final CT read; will get an EEG
   - Continue Phenytoin 100mg IV q8 for one more dose and then d/c; will
   begin Keppra 500mg PO BID starting this pm
   - Possible Neurosurgery this week (Thursday) for biopsy/evaluation of
   intracranial tumor.
   - Neuro-oncologist ([**Doctor Last Name 540**]), will contact for further input re
   seizure and plan
   - Will keep Plts > 100K for surgery
   - transfuse to keep platelets > 50 (s/p 5 units platelets total during
   admission)
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Failed SBT yesterday. On CMV
   Fi02, PEEP 10, RR 12, Vt 500 O2 Sat in 90
s with ABG suggestive of
   metabolic alkalosis with underlying respiratory acidosis. Etiologies of
   respiratory failure include resolving infection vs fluid overload vs
   atelectasis.  LVEF 60%. Diuresed 2.8L negative yesterday.
   - Continue to wean vent with trial of CPAP/PSV today; if tolerates,
   will adjust vent settings tonight to attempt SBT/extubation tomorrow.
   - Continue tx of PNA as discussed below
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   even.
   - note that pt has h/o DVT, though no DVTs on this admission.
   #Hypercalcemia: Elevated calcium during admission; Most likely etiology
   includes malignancy.
   -Will check ionized calcium to further assess calcium level.
   # Leukocytosis: WBC mildly elevated from yesterday (19K from 18K).
   Afebrile O/N.  Resp Culture:  MRSA. Elevated vanc level. Blood and
   urine Cx negative for growth.
   - Covering nosocomial VAP with vanc; will hold Vanc as levels are
   elevated, will follow levels.
   - Continue cipro (day #6; continue for 8-10d)
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until one week after antibiotics are complete.
   # Metabolic Alkalosis/Volume status: Likely [**1-26**] contraction alkalosis
   (eg: diuresis or suctioning). Good diuresis with negative 2.8L
   yesterday. Holding fluids.
   - D/c lasix standing and will dose PRN; will keep I/Os even.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys.
   - TF Free water flushes-50cc
   # MDS: s/p 6units platelets during admission. Low HCT today.
   - will transfuse 1u pRBC now; goal to transfuse for Hct < 25 or
   Platelets < 50
   - type and screen, consented for blood
   - Holding all Heparin Products given pt it HIT +
   - Follow-up Serotonin Release Antibody
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Holding IVF
   - E: Replete PRN,
   - N: TF @ goal rate of 65cc/hr, check TF tolerance, add multivitamins
   and supplements.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   ICU Care
   Nutrition:
   Impact with Fiber (Full) - [**2171-10-13**] 12:31 AM 65 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Arterial Line - [**2171-10-8**] 05:01 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-10-14 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Trial of CPAP/PSV tolerated.
   - Transfused one unit pRBC for HCT 21
24.7; Repeat HCT this am 23.4 and
   began to transfuse 2^nd unit.  Also, plt this am at 40, will transfuse
   1u plt.
   -Seizure: D/w Jayapalan concerning seizure activity, Ordered EEG
   Dilantin and starting Keppra
   - Elevated ionized calcium - following up PTH to AM labs
 ARTERIAL LINE - STOP [**2171-10-14**] 04:13 AM
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 06:00 PM
   Vancomycin - [**2171-10-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-13**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-14**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 57 (52 - 73) bpm
   BP: 97/46(59) {95/42(55) - 110/61(77)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,361 mL
                                                                    153 mL
   PO:
             TF:
                                                                  1,561 mL
                                                                     99 mL
   IVF:
                                                                  1,090 mL
                                                                     54 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,600 mL
                                                                    590 mL
   Urine:
                                                                  3,000 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                   -437 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 461 (324 - 550) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.48////
   Ve: 11.1 L/min
   Physical Examination
   Gen: Sleeping, easy to arouse, alert, non-verbal as intubated and lying
   in bed with left arm and leg extended.
   HEENT: PERRL, Left eye ptosis and left sided facial droop, MMM, ET
   tube. R PICC in place.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no appreciation for WRR
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP pulses.  Unable to assess sacral decubitus
   ulcers, dressed.
   Neuro: Alert, unable to assess orientation, responds to commands,
   flaccid left UE and LE, moving right UE and LE.
   Labs / Radiology
   54 K/uL
   7.7 g/dL
   110 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.1 mEq/L
   51 mg/dL
   101 mEq/L
   143 mEq/L
   24.7 %
   19.7 K/uL
        [image002.jpg] Vanco 39.1 (down from 53); Serotonin Rel Ab:
   pending, HIT Abs: +; Antib-Platelet Abs: pending.  Cdif negx3, BCx
   NGTD, UCx NGTD., PTH 43.
                            [**2171-10-12**]  02:45 AM
                            [**2171-10-12**]  07:32 AM
                            [**2171-10-12**]  07:52 AM
                            [**2171-10-12**]  04:53 PM
                            [**2171-10-12**]  05:01 PM
                            [**2171-10-12**]  06:10 PM
                            [**2171-10-12**]  06:26 PM
                            [**2171-10-13**]  03:30 AM
                            [**2171-10-13**]  03:34 AM
                            [**2171-10-13**]  09:34 PM
   WBC
   18.6
   18.9
   19.7
   Hct
   23.4
   23.2
   21.9
   24.7
   Plt
   47
   66
   57
   54
   Cr
   1.1
   1.1
   1.1
   TCO2
   40
   40
   40
   39
   Glucose
   105
   96
   110
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.5 mg/dL
   (ionized 1.36), Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic with respiratory failure.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: Seizure most
   likely related to brain tumor and hemorrhage as blood can act as an
   acute irritant, CT showed no progression or interval change of tumor.
   D/c
ed phenytoin as drug can suppress bone marrow.  Improved mental
   status since yesterday.
   - will get an EEG
   - Keppra 500mg PO BID starting this am
   - Possible Neurosurgery this week (Thursday) for biopsy/evaluation of
   intracranial tumor.
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - Will keep Plts > 100K for surgery
   - transfuse to keep platelets > 50 (s/p 7 units platelets total during
   admission)
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Failed SBT two days ago. Switched
   from CMV
CPAP/PSV yesterday. Current settings: CPAP/PSV PS 10 PEEP 8
   FiO2 50%; RSBI at 0400 of 64; sat
ing in low-mid 90
s. No new ABG.
   Etiologies of respiratory failure include resolving infection vs fluid
   overload vs atelectasis.  LVEF 60%. Diuresed .238L negative yesterday.
   Neg 4 Liters during LOS.
   - Continue to wean vent with trial of SBT today. Follow up ABG.
   - Continue tx of PNA as discussed below
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   even.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Leukocytosis: WBC mildly elevated from yesterday (20K from 19K).
   Afebrile O/N. Resp Culture:  MRSA. Elevated vanc level. Blood and urine
   Cx negative for growth.
   - Covering nosocomial VAP with vanc; will hold Vanc as levels are
   elevated, will follow levels.
   - Continue cipro (day #7; continue for 8-10d); f/u vanco levels daily
   and give when level is within therapeutic range.
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until one week after antibiotics are complete
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium. .
   # Metabolic Alkalosis/Volume status: Likely [**1-26**] contraction alkalosis
   (eg: diuresis or suctioning). Diuresed with negative .240L yesterday.
   Holding fluids.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os even.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys.
   - TF Free water flushes-50cc
   # MDS: Low HCT and low plt this am. Ordered for 1u pRBC and 1u
   platelets. s/p 7units platelets and s/p 2units pRBCs during admission.
   - goal to transfuse for Hct < 25 or Platelets < 50; follow up CBC this
   am after transfusion.
   - type and screen, consented for blood
   - Holding all Heparin Products given pt it HIT +
   - Follow-up Serotonin Release Antibody
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Holding IVF
   - E: Replete PRN,
   - N: TF @ goal rate of 65cc/hr, check TF tolerance, add multivitamins
   and supplements.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV

2171-10-14 05:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2171-10-14**] 04:13 AM
   - Trial of CPAP/PSV tolerated for ____
   - Transfused one unit of PRBCs for a HCT of 21-->24.7
   - D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 540**] concerning seizure activity
   - Ordered EEG
   - D/C
ed Dilantin and started Keppra
   - Elevated ionized calcium - following up PTH to AM labs
   - Attempt SBT tomorrow am if tolerates CPAP/PSV.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 06:00 PM
   Vancomycin - [**2171-10-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-13**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-14**] 05:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 57 (52 - 73) bpm
   BP: 97/46(59) {95/42(55) - 110/61(77)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,361 mL
                                                                    154 mL
   PO:
             TF:
                                                                  1,561 mL
                                                                     99 mL
   IVF:
                                                                  1,090 mL
                                                                     56 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  3,600 mL
                                                                    590 mL
   Urine:
                                                                  3,000 mL
                                                                    590 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                   -436 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 461 (324 - 550) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 18 cmH2O
   Plateau: 21 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 95%
   ABG: 7.48////
   Ve: 11.1 L/min
   Physical Examination
   Gen: Sleeping, difficult to arouse, minimal response to voice/touch
   intubated and lying in bed with left arm and leg extended.
   HEENT: Pupils equally round and reactive.  Left eye ptosis and left
   sided facial droop, MMM, ET tube.
   R PICC in place.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no appreciation for WRR
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP pulses.  Unable to assess sacral decubitus
   ulcers, dressed.
   Neuro: Not awake/alert; unable to assess neuro status, flaccid left UE
   and LE, moving right UE and LE.
   Labs / Radiology
   54 K/uL
   7.7 g/dL
   110 mg/dL
   1.1 mg/dL
   37 mEq/L
   4.1 mEq/L
   51 mg/dL
   101 mEq/L
   143 mEq/L
   24.7 %
   19.7 K/uL
        [image002.jpg]
                            [**2171-10-12**]  02:45 AM
                            [**2171-10-12**]  07:32 AM
                            [**2171-10-12**]  07:52 AM
                            [**2171-10-12**]  04:53 PM
                            [**2171-10-12**]  05:01 PM
                            [**2171-10-12**]  06:10 PM
                            [**2171-10-12**]  06:26 PM
                            [**2171-10-13**]  03:30 AM
                            [**2171-10-13**]  03:34 AM
                            [**2171-10-13**]  09:34 PM
   WBC
   18.6
   18.9
   19.7
   Hct
   23.4
   23.2
   21.9
   24.7
   Plt
   47
   66
   57
   54
   Cr
   1.1
   1.1
   1.1
   TCO2
   40
   40
   40
   39
   Glucose
   105
   96
   110
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.5 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic with respiratory failure.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: Seizure
   overnight most likely related to brain tumor, CT showed no progression
   or interval change of tumor. Given extra Phenytoin this am for
   decreased level.  Decreased interaction compared to previous days.
   - F/u final CT read; will get an EEG
   - Continue Phenytoin 100mg IV q8 for one more dose and then d/c; will
   begin Keppra 500mg PO BID starting this pm
   - Possible Neurosurgery this week (Thursday) for biopsy/evaluation of
   intracranial tumor.
   - Neuro-oncologist ([**Doctor Last Name 540**]), will contact for further input re
   seizure and plan
   - Will keep Plts > 100K for surgery
   - transfuse to keep platelets > 50 (s/p 5 units platelets total during
   admission)
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Failed SBT yesterday. On CMV
   Fi02, PEEP 10, RR 12, Vt 500 O2 Sat in 90
s with ABG suggestive of
   metabolic alkalosis with underlying respiratory acidosis. Etiologies of
   respiratory failure include resolving infection vs fluid overload vs
   atelectasis.  LVEF 60%. Diuresed 2.8L negative yesterday.
   - Continue to wean vent with trial of CPAP/PSV today; if tolerates,
   will adjust vent settings tonight to attempt SBT/extubation tomorrow.
   - Continue tx of PNA as discussed below
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   even.
   - note that pt has h/o DVT, though no DVTs on this admission.
   #Hypercalcemia: Elevated calcium during admission; Most likely etiology
   includes malignancy.
   -Will check ionized calcium to further assess calcium level.
   # Leukocytosis: WBC mildly elevated from yesterday (19K from 18K).
   Afebrile O/N.  Resp Culture:  MRSA. Elevated vanc level. Blood and
   urine Cx negative for growth.
   - Covering nosocomial VAP with vanc; will hold Vanc as levels are
   elevated, will follow levels.
   - Continue cipro (day #6; continue for 8-10d)
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until one week after antibiotics are complete.
   # Metabolic Alkalosis/Volume status: Likely [**1-26**] contraction alkalosis
   (eg: diuresis or suctioning). Good diuresis with negative 2.8L
   yesterday. Holding fluids.
   - D/c lasix standing and will dose PRN; will keep I/Os even.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys.
   - TF Free water flushes-50cc
   # MDS: s/p 6units platelets during admission. Low HCT today.
   - will transfuse 1u pRBC now; goal to transfuse for Hct < 25 or
   Platelets < 50
   - type and screen, consented for blood
   - Holding all Heparin Products given pt it HIT +
   - Follow-up Serotonin Release Antibody
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Holding IVF
   - E: Replete PRN,
   - N: TF @ goal rate of 65cc/hr, check TF tolerance, add multivitamins
   and supplements.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2171-10-14 12:22:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EEG - At [**2171-10-13**] 05:15 PM
 ARTERIAL LINE - STOP [**2171-10-14**] 04:13 AM
   Remains intubated, mechanically ventilated.  Failed SBT early this
   weekend.
   Experience generalized seizure this weekend ([**Last Name **] problem), initially on
   Dilantin --> changed to cepra.  No further seizures.
   Receiving PRBC and plts for low values.  No overt clinical evidence for
   active bleeding.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2171-10-11**] 06:00 PM
   Vancomycin - [**2171-10-12**] 08:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-13**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   Mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-14**] 12:22 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.2
C (97.2
   HR: 56 (52 - 73) bpm
   BP: 120/59(75) {97/44(57) - 123/59(75)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
           Total In:
                                                                  3,361 mL
                                                                  1,003 mL
   PO:
           TF:
                                                                  1,561 mL
                                                                     99 mL
   IVF:
                                                                  1,090 mL
                                                                    119 mL
   Blood products:
                                                                    375 mL
                                                                    625 mL
   Total out:
                                                                  3,600 mL
                                                                  1,210 mL
   Urine:
                                                                  3,000 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -239 mL
                                                                   -207 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 461 (324 - 485) mL
   PS : 10 cmH2O
   RR (Set): 440
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 64
   PIP: 18 cmH2O
   SpO2: 95%
   ABG: 7.48///36/
   Ve: 11.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: No(t) Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: No(t) Clear : , No(t) Crackles : , Bronchial: left,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): , Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed, Left hemiplegia
   Labs / Radiology
   8.2 g/dL
   40 K/uL
   95 mg/dL
   1.1 mg/dL
   36 mEq/L
   4.0 mEq/L
   56 mg/dL
   103 mEq/L
   145 mEq/L
   23.4 %
   20.1 K/uL
        [image002.jpg]
                            [**2171-10-12**]  07:32 AM
                            [**2171-10-12**]  07:52 AM
                            [**2171-10-12**]  04:53 PM
                            [**2171-10-12**]  05:01 PM
                            [**2171-10-12**]  06:10 PM
                            [**2171-10-12**]  06:26 PM
                            [**2171-10-13**]  03:30 AM
                            [**2171-10-13**]  03:34 AM
                            [**2171-10-13**]  09:34 PM
                            [**2171-10-14**]  03:45 AM
   WBC
   18.9
   19.7
   20.1
   Hct
   23.2
   21.9
   24.7
   23.4
   Plt
   66
   57
   54
   40
   Cr
   1.1
   1.1
   1.1
   TCO2
   40
   40
   40
   39
   Glucose
   96
   110
   95
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: HIT antibody positive
   Assessment and Plan
   Respriatory failure
   RESPIRATORY FAILURE -- multifactorial, including pneumonia (resolving),
   ?underlying COPD, CNS lesion.  Continue mechanical ventilation, attempt
   SBT.
   SEIZURE -- new onset, likley due to CNS lesion/mass.  Controlled on
   anticonvulsant (cepra).
   CNS MASS -- planned Neurosurgical bx, possibly on Thursday.
   NUTRITIONAL SUPPORT -- TF via PEG.
   FLUIDS -- desire to continue net negative balance.
   HYPERCALCEMIA -- likely related to mass and/or MDS.
   THROMBOCYTOPENIA -- underlying MDS and now HIT(+) positive --> avoid
   heparin products
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments: Updated wife and answered questions.
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-15 05:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   430pm SBT done at 5/0 50%, Post SBT ABG 7.47/55/53.Put back on
   50%/[**4-29**],sating upper 90
   11pm pH 7.44 pCO2 57 pO2 66 HCO3 40 BaseXS 11  on [**4-29**] 50%
   Rpt HCT 24.5
25.9, PLT 68
40 (transfusing 1unit now)
   EEG not read
   Not diuresed since negative 750 at 10pm I/O check
   Restarted TF, currently stopped.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-15**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-15**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.7
   HR: 95 (56 - 97) bpm
   BP: 116/59(74) {96/45(58) - 123/65(78)} mmHg
   RR: 30 (17 - 34) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  1,360 mL
                                                                    175 mL
   PO:
             TF:
                                                                    230 mL
                                                                    119 mL
   IVF:
                                                                    240 mL
                                                                     57 mL
   Blood products:
                                                                    625 mL
   Total out:
                                                                  2,350 mL
                                                                    400 mL
   Urine:
                                                                  2,350 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -225 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 376 (366 - 376) mL
   PS : 5 cmH2O
   RR (Set): 300
   RR (Spontaneous): 33
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: 7.44/57/66/34/11
   Ve: 12.2 L/min
   PaO2 / FiO2: 132
   Physical Examination
   Gen: Sleeping, somnolent compared to past exams yet able to arouse,
   alert, non-verbal, follows commands, and lying in bed with left arm and
   leg extended.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube. R PICC in place without s/s infection.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, more coarse than yesterday
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP pulses.  Unable to assess sacral decubitus
   ulcers, dressed.
   Neuro: Alert, unable to assess orientation, responds to commands,
   flaccid left UE and LE, moving right UE and LE.
   Labs / Radiology
   44 K/uL
   9.2 g/dL
   109 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.9 mEq/L
   53 mg/dL
   106 mEq/L
   146 mEq/L
   25.9 %
   20.7 K/uL
        [image002.jpg]  MRSA (nasal) pending.
                            [**2171-10-12**]  06:10 PM
                            [**2171-10-12**]  06:26 PM
                            [**2171-10-13**]  03:30 AM
                            [**2171-10-13**]  03:34 AM
                            [**2171-10-13**]  09:34 PM
                            [**2171-10-14**]  03:45 AM
                            [**2171-10-14**]  01:01 PM
                            [**2171-10-14**]  04:36 PM
                            [**2171-10-14**]  10:56 PM
                            [**2171-10-15**]  03:30 AM
   WBC
   18.9
   19.7
   20.1
   20.7
   Hct
   23.2
   21.9
   24.7
   23.4
   24.5
   25.9
   Plt
   57
   54
   40
   68
   44
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   40
   39
   41
   40
   Glucose
   110
   95
   94
   109
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known brain tumor transferred to [**Hospital1 54**]
   in the setting of recent hemorrhage near tumor site, found to be
   febrile and hypoxic with respiratory failure.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: Seizure most
   likely related to brain tumor and hemorrhage as blood can act as an
   acute irritant, CT showed no progression or interval change of tumor.
   No seizures since episode two days ago. D/c
ed phenytoin as drug can
   suppress bone marrow.  Mental status improving although slightly
   somnolent likely due to Keppra.
   - f/u EEG read
   - Keppra 500mg PO BID. Will increase 250mg per day in divided doses to
   reach a goal of 1000mg. Will increase to 625mg PO BID today.  And to
   750mg PO BID tomorrow.
   - Possible Neurosurgery this week (Thursday) for biopsy/evaluation of
   intracranial tumor. Will f/u with Neurosurg.
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - Will keep Plts > 100K for surgery
   - transfuse to keep platelets > 50 (s/p 8 units platelets total during
   admission)
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Low O2 on SBT yesterday. Current
   settings: CPAP/PSV PS 5 PEEP5 FiO2 50%; RSBI at 0400 of 109; sat
ing in
   low-mid 90
s. No new ABG. Etiologies of respiratory failure include
   resolving infection vs fluid overload vs atelectasis.  LVEF 60%.
   Diuresed .210L negative yesterday. Neg 4.7 Liters during LOS. Original
   intubation date per OSH records appears to be [**9-25**] although still
   remains unclear.
   - Continue to wean vent with trial of SBT today. Will obtain post ABG.
   - Continue tx of PNA as discussed below
   - F/u OSH records with regards to intubation date. Will consider Trach
   if fails SBT.
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   even.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Leukocytosis: WBC mildly elevated (20K). Afebrile O/N. Resp Culture:
   MRSA. Elevated vanc level. Blood and urine Cx negative for growth.
   - D/c
ed vanc IV as levels are elevated, will follow levels. f/u vanco
   levels daily and give when level is within therapeutic range.
   - Continue cipro (day #8; continue for 8-10d); will d/c today
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until one week after antibiotics are complete
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   # Acid Base Status/Volume status: ABG c/w metabolic alkalosis with
   respiratory acidosis. Alkalosis likely [**1-26**] contraction alkalosis (eg:
   diuresis or suctioning). Diuresed with negative .210L yesterday.
   Holding fluids.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os negative to
   1L.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys.
   - TF Free water flushes-30cc
   # MDS: low plt this am. Ordered for 1u platelets. s/p 8 units platelets
   during admission.
   - goal to transfuse for Hct < 25 or Platelets < 50; follow up plt this
   am after transfusion.
   - type and screen, consented for blood
   - Holding all Heparin Products given pt it HIT +
   - Follow-up Serotonin Release Antibody
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Holding IVF
   - E: Replete PRN,
   - N: TF @ goal rate of 65cc/hr, check TF tolerance, add multivitamins
   and supplements.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV

2171-10-15 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated mechanically ventilated.
   Poor SBT yesterday afternoon --> hypoxemia.
   Poor SBT this AM --> secretions.
   Appears comfortable on mechanical ventilation, able to communicate.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-15**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-15**] 12:08 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.9
   HR: 95 (66 - 123) bpm
   BP: 112/63(74) {89/46(58) - 134/65(81)} mmHg
   RR: 28 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  1,360 mL
                                                                    617 mL
   PO:
           TF:
                                                                    230 mL
                                                                    119 mL
   IVF:
                                                                    240 mL
                                                                    118 mL
   Blood products:
                                                                    625 mL
                                                                    190 mL
   Total out:
                                                                  2,350 mL
                                                                    910 mL
   Urine:
                                                                  2,350 mL
                                                                    910 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -990 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (366 - 447) mL
   PS : 10 cmH2O
   RR (Set): 300
   RR (Spontaneous): 32
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 17 cmH2O
   SpO2: 95%
   ABG: 7.44/57/66/34/11
   Ve: 14.5 L/min
   PaO2 / FiO2: 132
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal, Left hemiplegia
   Labs / Radiology
   9.2 g/dL
   52 K/uL
   109 mg/dL
   1.1 mg/dL
   34 mEq/L
   3.9 mEq/L
   53 mg/dL
   106 mEq/L
   146 mEq/L
   25.9 %
   20.7 K/uL
        [image002.jpg]
                            [**2171-10-12**]  06:26 PM
                            [**2171-10-13**]  03:30 AM
                            [**2171-10-13**]  03:34 AM
                            [**2171-10-13**]  09:34 PM
                            [**2171-10-14**]  03:45 AM
                            [**2171-10-14**]  01:01 PM
                            [**2171-10-14**]  04:36 PM
                            [**2171-10-14**]  10:56 PM
                            [**2171-10-15**]  03:30 AM
                            [**2171-10-15**]  10:51 AM
   WBC
   19.7
   20.1
   20.7
   Hct
   21.9
   24.7
   23.4
   24.5
   25.9
   Plt
   54
   40
   68
   44
   52
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   40
   39
   41
   40
   Glucose
   110
   95
   94
   109
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   Respiratory failure, pneumonia.
   RESP. FAILURE
 multifactorial (pneumonia, CHF/effusions), slow
   progress; hope to work towards SBT and extubation soon.  [**Month (only) 60**] require
   trach if unable to make further progress.
   PNEUMONIA
 aspiration/VAP.  Complete course or antimicrobials.
   SEIZURES -- no further evidence for seizure.  F/U EEG results.
   Continue anticonvulsants.
   PVC
 unifocal, but new.  Monitor.  Check Ca, Mg.  Maintain K>4.0.
   CVA -- no new events.  PT.
   CNS MASS -- await bx by Neurosurgery.
   FLUIDS -- desire net negative balance.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-16 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Cipro dc/d
   Keppra tittered up
   Pt NPO pt MN for Neurosurgery today (9:30am); will run platelets before
   Two packs of platelets ordered for today as well as type and screen
   Failed SBT yest [**1-26**] low O2 (3^rd attempt)
   OSH records state pt has been intubated since [**9-25**] (3weeks).
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-15**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-16**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 83 (57 - 123) bpm
   BP: 111/51(66) {89/45(59) - 134/66(81)} mmHg
   RR: 21 (17 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                    789 mL
                                                                     84 mL
   PO:
             TF:
                                                                    119 mL
   IVF:
                                                                    240 mL
                                                                     34 mL
   Blood products:
                                                                    190 mL
   Total out:
                                                                  1,650 mL
                                                                  1,020 mL
   Urine:
                                                                  1,650 mL
                                                                    420 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                   -861 mL
                                                                   -936 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 414 (357 - 472) mL
   PS : 10 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 15 cmH2O
   SpO2: 91%
   ABG: 7.50/47/92.[**Numeric Identifier 1176**]/35/11
   Ve: 11.2 L/min
   PaO2 / FiO2: 186
   Physical Examination
   Gen: Awake, somnolent yet able to arouse similar to yest, alert,
   non-verbal as intubated, follows commands, and lying in bed with left
   arm and leg extended.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube. R PICC in place without s/s infection.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, less coarse than yesterday
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP pulses.  Unable to assess sacral decubitus
   ulcers, dressed.
   Neuro: Alert, unable to assess orientation, responds to commands,
   flaccid left UE and LE, moving right UE and LE.
   Labs / Radiology
   43 K/uL
   8.5 g/dL
   98 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.6 mEq/L
   55 mg/dL
   106 mEq/L
   147 mEq/L
   25.7 %
   17.8 K/uL
        [image002.jpg] Vanco: 23.4, EEG pending, Free Water Def (187#):
   2.5L
                            [**2171-10-13**]  09:34 PM
                            [**2171-10-14**]  03:45 AM
                            [**2171-10-14**]  01:01 PM
                            [**2171-10-14**]  04:36 PM
                            [**2171-10-14**]  10:56 PM
                            [**2171-10-15**]  03:30 AM
                            [**2171-10-15**]  10:51 AM
                            [**2171-10-15**]  02:28 PM
                            [**2171-10-16**]  03:47 AM
                            [**2171-10-16**]  04:14 AM
   WBC
   20.1
   20.7
   17.8
   Hct
   24.7
   23.4
   24.5
   25.9
   25.7
   Plt
   40
   68
   44
   52
   43
   Cr
   1.1
   1.1
   1.1
   1.1
   TCO2
   41
   40
   40
   38
   Glucose
   95
   94
   109
   98
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:11.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known unspecified brain tumor
   transferred to [**Hospital1 54**] in the setting of recent hemorrhage near tumor
   site, found to be febrile and hypoxic with respiratory failure.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: Seizure most
   likely related to brain tumor and hemorrhage as blood can act as an
   acute irritant, CT post-seizure showed no progression or interval
   change of tumor. No seizures since episode three days ago. Mental
   status improving although slightly somnolent likely due to Keppra.
   Titrated up Keppra yest.
   - f/u EEG read
   - Keppra 625mg PO BID. Will increase 250mg per day in divided doses to
   reach a goal of 1000mg. Will increase to 750mg PO BID today.
   - Neurosurgery today at 9:30am for biopsy/decompression of intracranial
   tumor; holding hep SC, NPO at MN, 2x6u plts ordered
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - Will attempt to keep Plts > 100K for surgery
   - transfuse to keep platelets > 50 (s/p 8 units platelets total during
   admission)
   - monitor Q4H neuro exam
   # Severe Hypoxic Respiratory Failure: Low O2 on SBT yesterday. Current
   settings: CPAP/PSV PS 10 PEEP5 FiO2 50%; RSBI at 0400 of 109; sat
   in low-mid 90
s. ABG: metabolic alkalosis with respiratory acidosis.
   Etiologies of respiratory failure include resolving infection vs fluid
   overload vs atelectasis.  LVEF 60%. Diuresed .860L negative yesterday.
   Neg 6.4 Liters during LOS. Original intubation date per OSH records
   appears to be [**9-25**] although still remains unclear.
   - Wean attempts failed, consider trach after neurosurgery operation
   today.  D/w patient and family
   - D/c
ed cipro yesterday.
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   neg 1L.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Leukocytosis: WBC improved from yest (20
17K). Afebrile O/N. Resp
   Culture:  MRSA. Borderline elevated vanc level at 23.4. Blood and urine
   Cx negative for growth.
   -  D/c
ed vanc IV as levels are elevated, will follow levels. Cipro
   d/c
ed yesterday
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until next Monday (one week after end of IV antibiotics) after
   antibiotics are complete
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   # Acid Base Status/Volume status: ABG c/w metabolic alkalosis with
   respiratory acidosis. Alkalosis likely [**1-26**] contraction alkalosis (eg:
   diuresis or suctioning). Diuresed with negative .860L yesterday.
   Holding fluids.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os negative to
   1L.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys.
   - TF Free water flushes-now at 30cc
   #Hypernatremia: Sodium at 147 today. Free water deficit 2.5L
   -          Increase TF free water flushes to 50cc? Will recheck lytes
   in pm and provide free water based on post-op lytes.
   # MDS: s/p 8 units platelets during admission.
   - goal to transfuse for Hct < 25 or Platelets < 50;
   - Will receive plts pre-operation today
   - type and screen, consented for blood
   - Holding all Heparin Products given pt it HIT +
   - Follow-up Serotonin Release Antibody
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker; currently held as rate is WNL
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: D5 1/4NS at 85cc with 20mEq KCl x1L now per neurosurgery
   - E: Replete PRN, receiving 20mEq as above; Increase TF free water
   flushes for elevated Na
   - N: TF @ goal rate of 65cc/hr held for possible extubation/surgery.
   # PPx:  Pneumoboots, PPI, heparin SC held for surgery
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU for possible trach placement
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   R2 ADDENDUM:
   Patient is an 80 yo M with known brain mass, s/p hemorrhage, now
   intubated since [**2171-9-25**].  Today will go to OR with NS for biopsy and
   potential evacuation of hematoma.  Also plan on consulting IP for
   potential trache at bedside given ongoing vent dependence.

2171-10-16 10:59:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Poor RSBI.
   Continues with respiratory secretions.
   No seizures.
   To OR this AM for brain mass biopsy.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-15**] 12:15 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-16**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.2
   HR: 65 (57 - 97) bpm
   BP: 109/59(71) {95/45(59) - 126/67(81)} mmHg
   RR: 25 (17 - 33) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                    789 mL
                                                                    876 mL
   PO:
           TF:
                                                                    119 mL
   IVF:
                                                                    240 mL
                                                                    320 mL
   Blood products:
                                                                    190 mL
                                                                    451 mL
   Total out:
                                                                  1,650 mL
                                                                  1,480 mL
   Urine:
                                                                  1,650 mL
                                                                    880 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                   -861 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 498 (357 - 498) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 100
   PIP: 16 cmH2O
   SpO2: 93%
   ABG: 7.50/47/92.[**Numeric Identifier 1176**]/35/11
   Ve: 6.5 L/min
   PaO2 / FiO2: 186
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal, Left Hemiplegia
   Labs / Radiology
   8.5 g/dL
   60 K/uL
   98 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.6 mEq/L
   55 mg/dL
   106 mEq/L
   147 mEq/L
   25.7 %
   17.8 K/uL
        [image002.jpg]
                            [**2171-10-14**]  01:01 PM
                            [**2171-10-14**]  04:36 PM
                            [**2171-10-14**]  10:56 PM
                            [**2171-10-15**]  03:30 AM
                            [**2171-10-15**]  10:51 AM
                            [**2171-10-15**]  02:28 PM
                            [**2171-10-16**]  03:47 AM
                            [**2171-10-16**]  04:14 AM
                            [**2171-10-16**]  08:23 AM
                            [**2171-10-16**]  09:20 AM
   WBC
   20.7
   17.8
   Hct
   24.5
   25.9
   25.7
   Plt
   68
   44
   52
   43
    60
   60
   Cr
   1.1
   1.1
   1.1
   TCO2
   41
   40
   40
   38
   Glucose
   94
   109
   98
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:11.2 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Poor progress with SBT.  Completed
   treatment for pneumonia.  Mild CHF/volume overload.  Continue
   mechanical ventilation.  Would proceed with trach.
   CNS MASS -- await bx results.  [**Month (only) 60**] determine direction of care.
   Continue anticonvulsants.
   C. DIFF -- compete Rx course up to 1 week after completing antibiotics.
   PNEUMONIA -- completed course.  Monitor.
   FLUIDS -- desire net negative fluid balance.  Monitor I/O, replete KCL.
   THROMBOCYTOPENIA -- transfuse prn.
   ANEMIA -- stable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-17 05:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Known lastname 5974**]:
   - S/P stereotactic brain biopsy, following op note/report, biopsy with
   minimal to no decompression of blood/cyst.
   - Follow up CT head [prelim showed no change compared to pre-op CT]
   - Ancef 1gm q8, received two doses, need to follow up with NSx to
   clarify duration.
   - Seen by IP fellow for percutaneous trach eval - will likely need
   surgical placement due to short neck, General surgery to take him for a
   trach in the AM: cxr obtained and will still need plts prior to
   procedure.
   -s/p platelet x3 yest (x1 O/N) with recent plt 61; HCT at
   23.8
currently receiving 1 unit pRBC. Will begin plt therapy just
   before op when we know OR time.
   - EEG pending.
   - Lasix 40mg x1 along with free water and KCl repletion
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-15**] 12:15 AM
   Cefazolin - [**2171-10-16**] 11:58 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-17**] 01:26 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-17**] 05:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.2
   HR: 57 (57 - 91) bpm
   BP: 107/50(64) {107/45(62) - 139/72(85)} mmHg
   RR: 23 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
             Total In:
                                                                  2,916 mL
                                                                    611 mL
   PO:
             TF:
                                                                     98 mL
                                                                      1 mL
   IVF:
                                                                  1,777 mL
                                                                    550 mL
   Blood products:
                                                                    622 mL
   Total out:
                                                                  2,690 mL
                                                                    940 mL
   Urine:
                                                                  2,090 mL
                                                                    940 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    226 mL
                                                                   -329 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 362 (362 - 498) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 10.1 L/min
   Physical Examination
   Gen: Awake, alert, non-verbal as intubated, follows commands, and lying
   in bed with left arm and leg extended.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube. R PICC in place without s/s infection.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no change compared to yest.
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP/PT pulses.
   Neuro: Pt moving LUE (shoulder/wrist flexion, L hand grip at 3-4/5 at
   best compared to [**4-29**] on R hand grip) and LLE (dorsiflexion/mild
   plantarflexion with wingling of toes). Normal sensation throughout. 2+
   right Achilles/0-1+ left Achilles reflex; patellar reflex 0+ although
   difficult to assess; bil babinski down going. Unable to assess sacral
   decubitus ulcers.
   Alert, orientation to place and events (eg: aware of OR time today),
   responds to commands (writing on board).
   Labs / Radiology
   61 K/uL
   8.1 g/dL
   129 mg/dL
   1.2 mg/dL
   36 mEq/L
   3.9 mEq/L
   53 mg/dL
   107 mEq/L
   147 mEq/L
   23.8 %
   16.1 K/uL
        [image002.jpg]
   PT: 13.9
   PTT: 24.7
   INR: 1.2
                            [**2171-10-15**]  10:51 AM
                            [**2171-10-15**]  02:28 PM
                            [**2171-10-16**]  03:47 AM
                            [**2171-10-16**]  04:14 AM
                            [**2171-10-16**]  08:23 AM
                            [**2171-10-16**]  09:20 AM
                            [**2171-10-16**]  02:30 PM
                            [**2171-10-16**]  08:14 PM
                            [**2171-10-17**]  12:22 AM
                            [**2171-10-17**]  03:05 AM
   WBC
   17.8
   16.1
   Hct
   25.7
   23.8
   Plt
   52
   43
    60
   60
   53
   45
   56
   61
   Cr
   1.1
   1.2
   1.2
   TCO2
   40
   38
   Glucose
   98
   103
   129
   Other labs: PT / PTT / INR:14.9/28.8/1.3, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and known unspecified brain tumor
   transferred to [**Hospital1 54**] in the setting of recent hemorrhage near tumor
   site, found to be febrile and hypoxic with respiratory failure.
   # Severe Hypoxic Respiratory Failure: Intubated since [**9-25**] from OSH;
   Failed SBTx3;  Current settings: CPAP/PSV PS 10 PEEP5 FiO2 50%;
   deferred RSBI; sat
ing in mid-high 90
s. Etiologies of respiratory
   failure include resolving infection vs fluid overload vs atelectasis.
   LVEF 60%. Positive 220cc fluid balance yesterday. Neg 5.2 Liters during
   LOS.
   - Wean attempts failed, trach placement today with gen [**Doctor First Name 458**] as IP was
   not able to place perc trach [**1-26**] short neck.  D/w patient and family
   and patient consented for operation/anesthesia. Pt NPO/TF off since MN
   for operation; will wait for surgery to give us OR time and at that
   point will begin to transfuse plts for a goal level of >100,000.
   Currently, plt at 61.
   - Abx course over for PNA.
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   neg 1L.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: s/p
   stereotactic brain biopsy with minimal decompression yesterday, post-op
   CT shows no new changes in lesion and no new hemorrhaging. Seizure 4d
   ago most likely related to brain tumor and hemorrhage as blood can act
   as an acute irritant; no seizures since; on Keppra. Mental status
   improving with improvement in his motor exam as patient is able to move
   LLE and LUE compared to hemiplegia upon admission.
   - f/u EEG read
   - Keppra 750mg PO BID. Will increase 250mg per day in divided doses to
   reach a goal of 1000mg. Will increase to 875mg PO BID today.
   - Awaiting pathology reports from neurosurgery yest; will f/u with
   additional neurosurgery recs.
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - Will attempt to keep Plts > 100K for surgery
   - transfuse to keep platelets > 50 (s/p 11 units platelets total during
   admission)
   - monitor Q4H neuro exam
   # Leukocytosis: WBC improved from yest (17K
16). Afebrile O/N. Resp
   Culture:  MRSA. Borderline elevated vanc level at 23.4 yest. Blood and
   urine Cx negative for growth.
   -  D/c
ed vanc IV as levels are elevated and beyond abx course for PNA
   treatment. Cipro d/c
ed yesterday
   - OSH records positive for Cdiff and will continue to treat with vanc
   PO until next Monday (one week after end of IV antibiotics) after
   antibiotics are complete
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   # Acid Base Status/Volume status: ABG c/w metabolic alkalosis with
   respiratory acidosis. Alkalosis likely [**1-26**] contraction alkalosis (eg:
   diuresis or suctioning). Postive 220cc yesterday.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os negative to
   1L.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys if alkalosis continues.
   - TF Free water flushes-now at 30cc
   #Hypernatremia: Sodium at 147 today. Free water deficit 2.5L
   -          Increase TF free water flushes and provide D5W PRN after
   surgery when we recheck lytes
   # MDS: s/p11 units platelets during admission, s/p 3units pRBCs (pt
   currently receiving 3^rd today for HCT of 23.1)
   - goal to transfuse for Hct < 25 or Platelets < 50;
   - Will receive plts pre-operation today
   - type and screen, consented for blood
   - Holding all Heparin Products given pt it HIT +
   - Follow-up Serotonin Release Antibody
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker; currently held as rate is WNL
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: D5W with 40mEq KCl x1L O/N for repletion and hypernatremia. Will
   reassess fluid status post op and treat accordingly.
   - E: Replete PRN; F/u lytes post-op.
   - N: TF @ goal rate of 65cc/hr held for surgery. Restart post-op
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU. PT/OT c/s tomorrow. Will d/w case management re rehab.
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV
   Agree with above. Planned trach today.
[**First Name8 (NamePattern2) 2189**] [**Last Name (NamePattern1) **] PGY1

2171-10-17 10:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Remains intubated, mechanically ventilated.
   Neurosurgery performed brain bx yesterday, unsuccessful evacuation of
   brain hematoma.
   Able to move left arm today, and somewhat left leg (hip, toes) which is
   improvement since admission (dense hemiplegia).
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Vancomycin - [**2171-10-15**] 12:15 AM
   Cefazolin - [**2171-10-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-17**] 01:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, Tube feeds, No(t) Parenteral nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation, PEG
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, No(t) Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-17**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 68 (57 - 91) bpm
   BP: 120/53(69) {102/45(62) - 139/72(85)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  2,916 mL
                                                                  1,368 mL
   PO:
           TF:
                                                                     98 mL
                                                                      1 mL
   IVF:
                                                                  1,777 mL
                                                                    800 mL
   Blood products:
                                                                    622 mL
                                                                    358 mL
   Total out:
                                                                  2,690 mL
                                                                  1,490 mL
   Urine:
                                                                  2,090 mL
                                                                  1,490 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                    226 mL
                                                                   -122 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 446 (362 - 446) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///36/
   Ve: 9.7 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No(t) No acute distress,
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal on right, Left hemiparesis; able to move
   left arm and left leg somewhat.
   Labs / Radiology
   8.1 g/dL
   61 K/uL
   129 mg/dL
   1.2 mg/dL
   36 mEq/L
   3.9 mEq/L
   53 mg/dL
   107 mEq/L
   147 mEq/L
   23.8 %
   16.1 K/uL
        [image002.jpg]
                            [**2171-10-15**]  10:51 AM
                            [**2171-10-15**]  02:28 PM
                            [**2171-10-16**]  03:47 AM
                            [**2171-10-16**]  04:14 AM
                            [**2171-10-16**]  08:23 AM
                            [**2171-10-16**]  09:20 AM
                            [**2171-10-16**]  02:30 PM
                            [**2171-10-16**]  08:14 PM
                            [**2171-10-17**]  12:22 AM
                            [**2171-10-17**]  03:05 AM
   WBC
   17.8
   16.1
   Hct
   25.7
   23.8
   Plt
   52
   43
    60
   60
   53
   45
   56
   61
   Cr
   1.1
   1.2
   1.2
   TCO2
   40
   38
   Glucose
   98
   103
   129
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- persistent.  Multifactorial.  Plan proceed with
   trachetostomy tube today.  Anticipate slow weaning from ventilator.
   BRAIN MASS -- glioma by frozen section, but await pathology results.
   PNEUMONIA -- completed antimicrobial course.
   CVA -- some residual left hemiparesis, in part may be contribution of
   braiin mass.
   MDS -- no acute plans.
   THROMBOCYTOPENIA -- transfuse preop to >100 for trach.
   NUTRITION -- TF via PEG
   FLUIDS -- replete free water, and overall net diurese.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 55 minutes
   Patient is critically ill

2171-10-18 05:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Negative 1700cc
   Trach placed with slight bleeding
   Received 1L NS in OR. Given 40 Lasix upon return
   Post op HCTs stable at 23. Plt 62 then 22. Transfused 2 bags plt for
   22. Repeat 67 this am
   Replenished KCl 60mEq at 1800
   Headache: patient reports having pain [**3-4**] pain located around
   neurosurgery incision site, mild relief from acetaminophen.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Cefazolin - [**2171-10-18**] 12:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-17**] 06:46 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-18**] 05:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 63 (63 - 96) bpm
   BP: 98/43(57) {98/43(57) - 130/73(83)} mmHg
   RR: 21 (13 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,024 mL
                                                                    941 mL
   PO:
           TF:
                                                                    109 mL
                                                                    160 mL
   IVF:
                                                                  1,940 mL
                                                                    105 mL
   Blood products:
                                                                    565 mL
                                                                    426 mL
   Total out:
                                                                  4,728 mL
                                                                    790 mL
   Urine:
                                                                  4,728 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,704 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 486 (382 - 486) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 15 cmH2O
   SpO2: 95%
   ABG: ///35/
   Ve: 8.2 L/min
   Physical Examination
   Gen: Awake, alert, non-verbal as intubated, follows commands, and lying
   in bed with left arm and leg extended.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube. R PICC in place without s/s infection.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no change compared to yest.
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP/PT pulses.
   Neuro: Pt moving LUE (shoulder/wrist flexion, L hand grip at 3-4/5 at
   best compared to [**4-29**] on R hand grip) and LLE (dorsiflexion/mild
   plantarflexion with wingling of toes). Normal sensation throughout. 2+
   right Achilles/0-1+ left Achilles reflex; patellar reflex 0+ although
   difficult to assess; bil babinski down going. Unable to assess sacral
   decubitus ulcers.
   Alert, orientation to place and events (eg: aware of OR time today),
   responds to commands (writing on board).
   Labs / Radiology
   67 K/uL
                                  7.8 g/dL
                                  129 mg/dL
                                  1.3 mg/dL
                                  35 mEq/L
                                                                 3.9 mEq/L
                                  49 mg/dL
                                  108 mEq/L
                                                                 147 mEq/L
                                   23.3 %
                                                                 17.2 K/uL
        [image002.jpg] EEG: Abnormal due to slow and disorganized background; oc
c bursts of generalized slowing R>L; indicate widespread encephalopathy affectin
g both cortical and subcortical structures; meds/metabolic/infxn on diff dx; no
clearly epileptiform features.
Serotonin Release Antibody: Positive (Positive if release of serotonin from targ
et platelets in the presence of patient serum and low dose (0.1 U/ml) heparin of
 >20% with inhibition of release (<20%) with high dose (100 U/ml) heparin. POSIT
IVE results support a diagnosis of Heparin-Induced Thrombocytopenia.)
                            [**2171-10-16**]  08:23 AM
                            [**2171-10-16**]  09:20 AM
                            [**2171-10-16**]  02:30 PM
                            [**2171-10-16**]  08:14 PM
                            [**2171-10-17**]  12:22 AM
                            [**2171-10-17**]  03:05 AM
                            [**2171-10-17**]  11:30 AM
                            [**2171-10-17**]  04:30 PM
                            [**2171-10-17**]  11:30 PM
                            [**2171-10-18**]  04:29 AM
   WBC
   16.1
   17.2
   Hct
   23.8
   27.4
   23.7
   23.2
   23.3
   Plt
    60
   60
   53
   45
   56
   61
   62
   22
   67
   Cr
   1.2
   1.2
   1.2
   1.3
   Glucose
   103
   129
   129
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and brain tumor (possible low grade glioma)
   transferred to [**Hospital1 54**] in the setting of recent hemorrhage near tumor
   site, found to be febrile and hypoxic with respiratory failure.
   # Severe Hypoxic Respiratory Failure: s/p tracheostomy with mild
   bleeding, tolerating well.  Current settings: CPAP/PSV PS 10 PEEP5 FiO2
   50%; RSBI 76, sat
ing at 96-97% O/N. Etiologies of respiratory failure
   include resolving infection vs fluid overload vs atelectasis c/w
   findings on CXR yest.  LVEF 60%. Neg 1.7 fluid balance yesterday w/
   Lasix 40mg x1 O/N. Neg 6.6 Liters during LOS.
   - Abx course over for PNA.
   - Wean off vent/SBT today
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   neg 1L.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: s/p
   stereotactic brain biopsy with minimal decompression, post-op CT shows
   no new changes in lesion and no new hemorrhaging, prelim finding of low
   grade glioma No seizures since episode 5d ago; on Keppra. Mental status
   improving with improvement in his motor exam as patient is able to move
   LLE and LUE compared to hemiplegia upon admission.
   - Keppra 875mg PO BID. Will increase 250mg per day in divided doses to
   reach a goal of 1000mg. Will increase to 1000mg PO BID today and stop
   titrating up.
   - D/c dressing today; remove suture in 10days from op ([**10-26**]) in office
   ([**Telephone/Fax (1) 6136**]); will call to make appt.
   - D/c Ancef.
   - Awaiting pathology reports from neurosurgery; will f/u with
   additional neurosurgery recs.
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - transfuse to keep platelets > 50 (s/p 13 units platelets total during
   admission)
   - monitor Q2H neuro exam per NS
   #Headache: Focal and located at incision site from neurosurg biopsy.
   Not diffuse, no changes in neuro exam. Mild relief from Tylenol.
   -will order oxycodone-acetaminophen for pain
   -neuro checks q2hr
   # C.Diff: OSH records positive for Cdiff WBC stable from yest (17K).
   Afebrile O/N. No abdominal pain. Rectal tube in place.
   -  will continue to treat with vanc PO until next Monday (one week
   after end of IV antibiotics)
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   -Will defer to outpatient treatment.
   # Acid Base Status/Volume status: past ABGs c/w metabolic alkalosis
   with respiratory acidosis. Alkalosis likely [**1-26**] contraction alkalosis
   (eg: diuresis or suctioning). Negative 1.7L yesterday.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os negative to
   1L.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys if alkalosis continues.
   - TF Free water flushes-now at 100cc
   #Hypernatremia: Sodium at 147 today. Free water deficit 2.5L
   -          100cc TF free water flushes and provide D5W PRN
   -          F/u with afternoon lytes.
   # MDS: s/p13 units platelets during admission, s/p 3units pRBCs; HCT
   stable at 23, considering lowering threshold to transfuse.
   - will hold from transfusion as HCT is stable over past 20hrs at 23;
   yet acknowledge Heme Onc
s goal to transfuse for Hct < 25 or Platelets
   < 50;
   - will look in records for h/o erythropoietin administration
   - type and screen, consented for blood
#HIT: SRA positive; Heparin PF4 Antibodies positive. Holding heparin [**1-26**] HIT and
 potential bleed.
-Holding all heparin products.
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker; currently held as rate is WNL
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Will continue to keep neg 1L.
   - E: Replete PRN; F/u lytes in PM.
   - N: TF @ goal rate of 65cc/hr; currently at 35cc/hr.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU. PT/OT c/s today. Has rehab placement for Monday; need
   to f/u with CM for more details
   [**First Name8 (NamePattern2) 34**] [**Last Name (NamePattern1) 5783**] MSIV

2171-10-18 13:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2171-10-17**] 12:45 PM
 OR RECEIVED - At [**2171-10-17**] 03:28 PM
   Tolerating mechanical ventilation via new trach.
   HA overnight, but now resolved.
   No seizures.
   Moving left hand with more vigor.
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Cefazolin - [**2171-10-18**] 08:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-17**] 06:46 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea, No(t) Wheeze,
   mechanical ventilation
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2171-10-18**] 01:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 65 (61 - 96) bpm
   BP: 113/56(70) {98/43(57) - 124/73(83)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  3,024 mL
                                                                  1,277 mL
   PO:
           TF:
                                                                    109 mL
                                                                    391 mL
   IVF:
                                                                  1,940 mL
                                                                    210 mL
   Blood products:
                                                                    565 mL
                                                                    426 mL
   Total out:
                                                                  4,728 mL
                                                                  1,390 mL
   Urine:
                                                                  4,728 mL
                                                                  1,390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,704 mL
                                                                   -113 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 413 (382 - 486) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 76
   PIP: 15 cmH2O
   SpO2: 96%
   ABG: ///35/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL, No(t)
   Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese, PEG
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   67 K/uL
   129 mg/dL
   1.3 mg/dL
   35 mEq/L
   3.9 mEq/L
   49 mg/dL
   108 mEq/L
   147 mEq/L
   23.3 %
   17.2 K/uL
        [image002.jpg]
                            [**2171-10-16**]  08:23 AM
                            [**2171-10-16**]  09:20 AM
                            [**2171-10-16**]  02:30 PM
                            [**2171-10-16**]  08:14 PM
                            [**2171-10-17**]  12:22 AM
                            [**2171-10-17**]  03:05 AM
                            [**2171-10-17**]  11:30 AM
                            [**2171-10-17**]  04:30 PM
                            [**2171-10-17**]  11:30 PM
                            [**2171-10-18**]  04:29 AM
   WBC
   16.1
   17.2
   Hct
   23.8
   27.4
   23.7
   23.2
   23.3
   Plt
    60
   60
   53
   45
   56
   61
   62
   22
   67
   Cr
   1.2
   1.2
   1.2
   1.3
   Glucose
   103
   129
   129
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   RESPIRATORY FAILURE -- improving slowly.  S/p pneumonia.  Work towards
   trach collar trials.
   PNEUMONIA -- completed course.
   CNS MASS -- await final pathology.
   SEUZURES -- stable
   THROMBOCYTOPENIA --
   HIT+ -- avoid Heparin.
   ANEMIA --
   NUTRITIONAL SUPPORT --
 HYPERNATREMIA (HIGH SODIUM)
 .H/O THROMBOCYTOPENIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 ELECTROLYTE & FLUID DISORDER, OTHER
 IMPAIRED SKIN INTEGRITY
 LEUKOCYTOSIS
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 CVA (STROKE, CEREBRAL INFARCTION), HEMORRHAGIC
 .H/O CORONARY ARTERY BYPASS GRAFT (CABG)
 HYPOXEMIA
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   20 Gauge - [**2171-10-17**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2171-10-19 05:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Net even overnight
   Contact[**Name (NI) **] [**Name2 (NI) **] Management
   D/[**Name (NI) **] Cefazolin
   Pt on trach mask yesterday for a few hours
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Cefazolin - [**2171-10-18**] 08:02 AM
   Vancomycin - [**2171-10-18**] 09:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-18**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-19**] 05:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 57 (54 - 99) bpm
   BP: 97/44(57) {91/42(52) - 122/62(75)} mmHg
   RR: 20 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 68 Inch
             Total In:
                                                                  2,215 mL
                                                                    602 mL
   PO:
             TF:
                                                                    885 mL
                                                                    214 mL
   IVF:
                                                                    534 mL
                                                                    108 mL
   Blood products:
                                                                    426 mL
   Total out:
                                                                  3,245 mL
                                                                    570 mL
   Urine:
                                                                  2,820 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,030 mL
                                                                     32 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 383 (364 - 432) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 91
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///36/
   Ve: 8.6 L/min
   Physical Examination
   Gen: Awake, alert, non-verbal as intubated, follows commands, and lying
   in bed with left arm and leg extended.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube. R PICC in place without s/s infection.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no change compared to yest.
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP/PT pulses.
   Neuro: Pt moving LUE (shoulder/wrist flexion, L hand grip at 3-4/5 at
   best compared to [**4-29**] on R hand grip) and LLE (dorsiflexion/mild
   plantarflexion with wingling of toes). Normal sensation throughout. 2+
   right Achilles/0-1+ left Achilles reflex; patellar reflex 0+ although
   difficult to assess; bil babinski down going. Unable to assess sacral
   decubitus ulcers.
   Alert, orientation to place and events (eg: aware of OR time today),
   responds to commands (writing on board).
   Labs / Radiology
   49 K/uL
   8.3 g/dL
   112 mg/dL
   1.3 mg/dL
   36 mEq/L
   3.2 mEq/L
   51 mg/dL
   107 mEq/L
   148 mEq/L
   25.0 %
   17.6 K/uL
        [image002.jpg]
                            [**2171-10-16**]  08:14 PM
                            [**2171-10-17**]  12:22 AM
                            [**2171-10-17**]  03:05 AM
                            [**2171-10-17**]  11:30 AM
                            [**2171-10-17**]  04:30 PM
                            [**2171-10-17**]  11:30 PM
                            [**2171-10-18**]  04:29 AM
                            [**2171-10-18**]  04:30 PM
                            [**2171-10-18**]  05:20 PM
                            [**2171-10-19**]  02:39 AM
   WBC
   16.1
   17.2
   14.8
   17.6
   Hct
   23.8
   27.4
   23.7
   23.2
   23.3
   23.8
   25.0
   Plt
   45
   56
   61
   62
   22
   67
   48
   49
   Cr
   1.2
   1.2
   1.3
   1.3
   1.3
   Glucose
   129
   129
   107
   112
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:11.1 mg/dL,
   Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and brain tumor (possible low grade glioma)
   transferred to [**Hospital1 54**] in the setting of recent hemorrhage near tumor
   site, found to be febrile and hypoxic with respiratory failure.
   # Severe Hypoxic Respiratory Failure: s/p tracheostomy with mild
   bleeding, tolerating well.  Current settings: CPAP/PSV PS 10 PEEP5 FiO2
   50%; RSBI 76, sat
ing at 96-97% O/N. Etiologies of respiratory failure
   include resolving infection vs fluid overload vs atelectasis c/w
   findings on CXR yest.  LVEF 60%. Neg 1.7 fluid balance yesterday w/
   Lasix 40mg x1 O/N. Neg 6.6 Liters during LOS.
   - Abx course over for PNA.
   - Wean off vent/SBT today
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   neg 1L.
   - note that pt has h/o DVT, though no DVTs on this admission.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: s/p
   stereotactic brain biopsy with minimal decompression, post-op CT shows
   no new changes in lesion and no new hemorrhaging, prelim finding of low
   grade glioma No seizures since episode 5d ago; on Keppra. Mental status
   improving with improvement in his motor exam as patient is able to move
   LLE and LUE compared to hemiplegia upon admission.
   - Keppra 875mg PO BID. Will increase 250mg per day in divided doses to
   reach a goal of 1000mg. Will increase to 1000mg PO BID today and stop
   titrating up.
   - D/c dressing today; remove suture in 10days from op ([**10-26**]) in office
   ([**Telephone/Fax (1) 6136**]); will call to make appt.
   - D/c Ancef.
   - Awaiting pathology reports from neurosurgery; will f/u with
   additional neurosurgery recs.
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - transfuse to keep platelets > 50 (s/p 13 units platelets total during
   admission)
   - monitor Q2H neuro exam per NS
   #Headache: Focal and located at incision site from neurosurg biopsy.
   Not diffuse, no changes in neuro exam. Mild relief from Tylenol.
   -will order oxycodone-acetaminophen for pain
   -neuro checks q2hr
   # C.Diff: OSH records positive for Cdiff WBC stable from yest (17K).
   Afebrile O/N. No abdominal pain. Rectal tube in place.
   -  will continue to treat with vanc PO until next Monday (one week
   after end of IV antibiotics)
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   -Will defer to outpatient treatment.
   # Acid Base Status/Volume status: past ABGs c/w metabolic alkalosis
   with respiratory acidosis. Alkalosis likely [**1-26**] contraction alkalosis
   (eg: diuresis or suctioning). Negative 1.7L yesterday.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os negative to
   1L.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys if alkalosis continues.
   - TF Free water flushes-now at 100cc
   #Hypernatremia: Sodium at 147 today. Free water deficit 2.5L
   -          100cc TF free water flushes and provide D5W PRN
   -          F/u with afternoon lytes.
   # MDS: s/p13 units platelets during admission, s/p 3units pRBCs; HCT
   stable at 23, considering lowering threshold to transfuse.
   - will hold from transfusion as HCT is stable over past 20hrs at 23;
   yet acknowledge Heme Onc
s goal to transfuse for Hct < 25 or Platelets
   < 50;
   - will look in records for h/o erythropoietin administration
   - type and screen, consented for blood
#HIT: SRA positive; Heparin PF4 Antibodies positive. Holding heparin [**1-26**] HIT and
 potential bleed.
-Holding all heparin products.
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker; currently held as rate is WNL
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Will continue to keep neg 1L.
   - E: Replete PRN; F/u lytes in PM.
   - N: TF @ goal rate of 65cc/hr; currently at 35cc/hr.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU. PT/OT c/s today. Has rehab placement for Monday; need
   to f/u with CM for more details
   ICU Care
   Nutrition:
   Impact (Full) - [**2171-10-19**] 12:09 AM 40 mL/hour
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   20 Gauge - [**2171-10-17**] 01:05 PM

2171-10-20 05:19:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neurosurgery wanted 3 days of plts > 50 post procedure, transfused
   one pack of platelets this am.
   - Emailed Jayapalan (neuro onc) concerning Keppra as potential cause of
   thrombocytopenia, waiting for response.
   - Waiting placement on Monday.
   -          I:O negative 1 liter
   -          Tachypneic on trach mask , placed on CPAP overnight
   -
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Cefazolin - [**2171-10-18**] 08:02 AM
   Vancomycin - [**2171-10-19**] 08:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2171-10-19**] 02:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-20**] 05:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 72 (57 - 111) bpm
   BP: 100/54(66) {87/44(47) - 125/64(78)} mmHg
   RR: 22 (7 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
           Total In:
                                                                  2,178 mL
                                                                    667 mL
   PO:
           TF:
                                                                  1,006 mL
                                                                    213 mL
   IVF:
                                                                    527 mL
                                                                    106 mL
   Blood products:
   198 mL
   Total out:
                                                                  3,175 mL
                                                                    960 mL
   Urine:
                                                                  3,175 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -997 mL
                                                                   -293 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 444 (399 - 444) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: ///38/
   Ve: 11.2 L/min
   Physical Examination
   Gen: Awake, alert, non-verbal as intubated, follows commands, and lying
   in bed with left arm and leg extended.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube. R PICC in place without s/s infection.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly, no change compared to yest.
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP/PT pulses.
   Neuro: Pt moving LUE (shoulder/wrist flexion, L hand grip at 3-4/5 at
   best compared to [**4-29**] on R hand grip) and LLE (dorsiflexion/mild
   plantarflexion with wingling of toes). Normal sensation throughout. 2+
   right Achilles/0-1+ left Achilles reflex; patellar reflex 0+ although
   difficult to assess; bil babinski down going. Unable to assess sacral
   decubitus ulcers.
   Alert, orientation to place and events (eg: aware of OR time today),
   responds to commands (writing on board).
   Labs / Radiology
   44 K/uL
   8.2 g/dL
   134 mg/dL
   1.4 mg/dL
   38 mEq/L
   4.6 mEq/L
   54 mg/dL
   108 mEq/L
   150 mEq/L
   24.6 %
   15.2 K/uL
        [image002.jpg] Prior Na 151, Prior Cr 1.3, Prior WBC 17.6
                            [**2171-10-17**]  03:05 AM
                            [**2171-10-17**]  11:30 AM
                            [**2171-10-17**]  04:30 PM
                            [**2171-10-17**]  11:30 PM
                            [**2171-10-18**]  04:29 AM
                            [**2171-10-18**]  04:30 PM
                            [**2171-10-18**]  05:20 PM
                            [**2171-10-19**]  02:39 AM
                            [**2171-10-19**]  05:50 PM
                            [**2171-10-20**]  03:25 AM
   WBC
   16.1
   17.2
   14.8
   17.6
   17.2
   15.2
   Hct
   23.8
   27.4
   23.7
   23.2
   23.3
   23.8
   25.0
   24.9
   24.6
   Plt
   61
   62
   22
   67
   48
   49
   42
   44
   Cr
   1.2
   1.2
   1.3
   1.3
   1.3
   1.3
   1.4
   Glucose
   129
   129
   107
   112
   120
   134
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:10.9 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and brain tumor (possible low grade glioma)
   transferred to [**Hospital1 54**] in the setting of recent hemorrhage near tumor
   site, found to be febrile and hypoxic with respiratory failure.
   # Severe Hypoxic Respiratory Failure: s/p tracheostomy with mild
   bleeding, tolerating well. Etiologies of respiratory failure include
   resolving infection vs fluid overload vs atelectasis c/w findings on
   CXR.  LVEF 60%.
   - Abx course over for PNA.
   - Wean to trach collar as tolerated
   - Will diurese with lasix and KCl PRN, will keep patient
s fluid status
   neg 1L although recheck pm lytes and renal function given slight bump
   in creatinine.
   - Note that pt has h/o DVT, though no DVTs on this admission.
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: s/p
   stereotactic brain biopsy with minimal decompression, post-op CT shows
   no new changes in lesion and no new hemorrhaging, prelim finding of low
   grade glioma. No seizures since episode 5d ago; on Keppra. Mental
   status improving with improvement in his motor exam as patient is able
   to move LLE and LUE compared to hemiplegia upon admission.
   - Keppra 1000mg PO BID.
   - D/c dressing today; remove suture in 10days from op ([**10-26**]) in office
   ([**Telephone/Fax (1) 6136**]); will call to make appt.
   - Awaiting pathology reports from neurosurgery; will f/u with
   additional neurosurgery recs.
   - Neuro-oncologist ([**Doctor Last Name 540**]) following
   - Transfuse to keep platelets > 50 (s/p 13 units platelets total during
   admission) for three days post neurosurgical procedure: transfusing
   plts again today.
   - monitor Q2H neuro exam per NS
   # C.Diff: OSH records positive for Cdiff WBC stable from yest (17K).
   Afebrile O/N. No abdominal pain. Rectal tube in place.
   -  will continue to treat with vanc PO until next Monday (one week
   after end of IV antibiotics)
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   -Will defer to outpatient treatment.
   # Acid Base Status/Volume status: past ABGs c/w metabolic alkalosis
   with respiratory acidosis. Alkalosis likely [**1-26**] contraction alkalosis
   (eg: diuresis or suctioning). Negative 1.7L yesterday.
   - D/c
ed lasix standing and will dose PRN; will keep I/Os negative to
   1L.
   - KCl 40mEq IV doses as needed to encourage further secretion of
   bicarbonate from kidneys if alkalosis continues.
   - TF Free water flushes-now at 100cc
   - Check urine lytes
   #Hypernatremia: Sodium at 147 today. Free water deficit 2.5L
   -          100cc TF free water flushes and provide D5W PRN
   -          F/u with afternoon lytes.
   # MDS: s/p13 units platelets during admission, s/p 3units pRBCs; HCT
   stable at 23, considering lowering threshold to transfuse.
   - will hold from transfusion as HCT is stable over past 20hrs at 23;
   yet acknowledge Heme Onc
s goal to transfuse for Hct < 25 or Platelets
   < 50;
   - Attempting to determine h/o erythropoietin administration, dosing,
   and follow-up.
   - type and screen, consented for blood
#HIT: SRA positive; Heparin PF4 Antibodies positive. Holding heparin [**1-26**] HIT and
 potential bleed.
-Holding all heparin products.
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin
   - Holding beta blocker as heart rate is now controlled.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT:
   - pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib:
   - Rate controled with beta blocker; currently held as rate is WNL
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Will continue to keep neg 1L.
   - E: Replete PRN; F/u lytes in PM.
   - N: TF @ goal rate of 65cc/hr; currently at 35cc/hr.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU. PT/OT c/s today. Has rehab placement for Monday; need
   to f/u with CM for more details
   ICU Care
   Nutrition:
   Impact (Full) - [**2171-10-20**] 12:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   20 Gauge - [**2171-10-17**] 01:05 PM

2171-10-21 05:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PLanned DC to rehab today (DC paperwork completed, just needs to be
   finalized)
   Trying to keep I/O even given bump in Cr, HCO3
   head dsg DCd
   Free water flushes increased for hypernatremia
   Transfused 1 unit PRBC and 1 bag PLT
   Allergies:
   Univasc (Oral) (Moexipril Hcl)
   Electrolyte abn
   Celexa (Oral) (Citalopram Hydrobromide)
   Lightheadedness
   Heparin Agents
   Unknown; positi
   Last dose of Antibiotics:
   Cefazolin - [**2171-10-18**] 08:02 AM
   Vancomycin - [**2171-10-20**] 02:06 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2171-10-21**] 05:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 104 (62 - 104) bpm
   BP: 121/53(70) {104/43(60) - 126/64(78)} mmHg
   RR: 28 (17 - 28) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
           Total In:
                                                                  3,154 mL
                                                                    895 mL
   PO:
           TF:
                                                                  1,145 mL
                                                                    215 mL
   IVF:
                                                                    524 mL
                                                                     54 mL
   Blood products:
                                                                    546 mL
                                                                    327 mL
   Total out:
                                                                  3,420 mL
                                                                    510 mL
   Urine:
                                                                  2,820 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -266 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (0 - 467) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 82
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///39/
   Ve: 10.8 L/min
   Physical Examination
   Gen: Awake, alert, non-verbal as intubated, follows commands, lying in
   bed, nodding head to answer questions.
   HEENT: PERRL, no conjunctival pallor, Left eye ptosis and left sided
   facial droop, MMM, ET tube.
   Card: S1, S2, regular, no murmur appreciated.
   Resp: Vented breath sounds anteriorly.
   Abd: PEG in place with no s/s infection, +BS, soft, NTND
   Ext: No LE edema.  2+ DP/PT pulses.
   Neuro: Pt moving RUE, RLE, LUE grip at 3/5;  [**4-29**] R hand grip) and LLE
   (wiggling of toes).
   Labs / Radiology
   66 K/uL
   7.9 g/dL
   122 mg/dL
   1.4 mg/dL
   39 mEq/L
   4.3 mEq/L
   56 mg/dL
   107 mEq/L
   149 mEq/L
   23.3 %
   16.8 K/uL
        [image002.jpg]
                            [**2171-10-17**]  11:30 AM
                            [**2171-10-17**]  04:30 PM
                            [**2171-10-17**]  11:30 PM
                            [**2171-10-18**]  04:29 AM
                            [**2171-10-18**]  04:30 PM
                            [**2171-10-18**]  05:20 PM
                            [**2171-10-19**]  02:39 AM
                            [**2171-10-19**]  05:50 PM
                            [**2171-10-20**]  03:25 AM
                            [**2171-10-20**]  03:10 PM
   WBC
   17.2
   14.8
   17.6
   17.2
   15.2
   16.8
   Hct
   27.4
   23.7
   23.2
   23.3
   23.8
   25.0
   24.9
   24.6
   23.3
   Plt
   62
   22
   67
   48
   49
   42
   44
   66
   Cr
   1.2
   1.3
   1.3
   1.3
   1.3
   1.4
   1.4
   Glucose
   129
   107
   112
   120
   134
   122
   Other labs: PT / PTT / INR:13.9/24.7/1.2, CK / CKMB /
   Troponin-T:10//0.06, Differential-Neuts:16.0 %, Band:4.0 %, Lymph:9.0
   %, Mono:62.0 %, Eos:2.0 %, Lactic Acid:1.5 mmol/L, Ca++:11.3 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   80yo gentleman with h/o MDS and brain tumor (possible low grade glioma)
   transferred to [**Hospital1 54**] in the setting of recent hemorrhage near tumor
   site, found to be febrile and hypoxic with respiratory failure.
   # Severe Hypoxic Respiratory Failure: s/p tracheostomy with mild
   bleeding, tolerating well. Etiologies of respiratory failure include
   resolving infection vs fluid overload vs atelectasis c/w findings on
   CXR.  LVEF 60%.   Did not tolerate trach collar yesterday and had
   copious secretions. Has been negative 9 liters for LOS and has diuresed
   well. Will aim to keep even now.
   - Completed Abx course for PNA.
   - Wean to trach collar as tolerated
   - even I/Os
   # Seizure/Brain Tumor with Parietal Hemorrhagic Lesion: s/p
   stereotactic brain biopsy with minimal decompression, post-op CT shows
   no new changes in lesion and no new hemorrhage prelim finding of low
   grade glioma. No seizures since episode approx. 1 week ago, now on
   Keppra. Mental status improving with improvement in his motor exam as
   patient is able to move LLE and LUE compared to hemiplegia upon
   admission.
   - Keppra 1000mg PO BID.
   - Will follow-up with suture removal as outpatient, 10 days after
   operation
   - D/C
d dressing today; remove suture in 10days from op ([**10-26**]) in
   office ([**Telephone/Fax (1) 6136**]); will call to make appt.
   - Awaiting pathology reports from neurosurgery; will f/u with
   additional neurosurgery recs.
   - Neuro-oncologist ([**Doctor Last Name 540**]) peripherally following
   - Was transfusing to keep platelets > 50 3 days post procedure but no
   indication to keep plt>50 now. Tx to keep >20.
   - monitor Q2H neuro exam per NS
   # C.Diff: OSH records positive for Cdiff WBC trending down. Afebrile.
   No abdominal pain. Rectal tube in place.
   Stopped PO Vanco [**10-20**]. C. diff negative and off Abx x 5 days
   #Hypercalcemia: Elevated calcium during admission; PTH WNL. Most likely
   etiology includes humoral hypercalcemia of malignancy as involvement of
   bone is unlikely.
   -f/u with daily calcium.
   -Will defer to outpatient treatment.
   # Acid Base Status/Volume status: Pt negative 9 liters during LOS with
   bump in creatinine and increase bicarb. Clinically hypovolemic this am
   - will keep even for now, avoid diuresis today.
   #Hypernatremia: Sodium at 150 today.
   -          Increased free water flushes to 150cc
   -          F/u with afternoon lytes.
   # MDS: Low plt and HCT stable
   - Attempting to determine h/o erythropoietin administration, dosing,
   and follow-up.
   - type and screen, consented for blood
#HIT: SRA positive; Heparin PF4 Antibodies positive. Holding heparin [**1-26**] HIT and
 potential bleed.
-Holding all heparin products.
   # CAD s/p CABG; HTN; Dyslipidemia: LVEF 60%
   - hold ASA given head bleed
   - Statin  and beta blocker.
   - Has not tolerated ACE I in past due to hyperkalemia
   # h/o DVT: pneumoboots. no anticoagulation given intracranial bleeding.
   # AFib: - Rate controled with beta blocker;
   - No ASA or coumadin
   # Hyperglycemia: Was on SSI at OSH but does not carry Dx of diabetes.
   - cover with SSI but discontinue if sugars are low
   # Sacral Wound:
   - Wound care consult
 following recommendations.
   - Nystatin as it appears to have fungal component
   - Zinc x 10 days starting [**10-20**]
   # Gout: Stable
   - Cont Allopurinol
   # ? GERD:  on PPI at home, will continue
   # FEN:
   - F: Will keep even.
   - E: Replete PRN; F/u lytes in PM.
   - N: TF to goal rate of 65cc/hr.
   # PPx:  Pneumoboots, PPI
   # Access:  R PICC
   # Code:  FULL
   # Comm:  Wife [**Name (NI) 5977**] [**Telephone/Fax (1) 5978**]; [**Telephone/Fax (1) 5979**] (consented for blood
   products over phone)
   # Dispo:  MICU. PT/OT c/s. Has rehab placement for Monday; need to f/u
   with CM for more details
   ICU Care
   Nutrition:
   Impact (Full) - [**2171-10-20**] 08:21 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2171-10-7**] 09:49 PM
   20 Gauge - [**2171-10-17**] 01:05 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: